2114-07-22 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No change overnight.
   On propofol gtt.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-7-21**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-22**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 55 (55 - 71) bpm
   BP: 125/59(74) {106/49(64) - 132/71(81)} mmHg
   RR: 11 (6 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 6 (5 - 6)mmHg
   Total In:
                                                                    151 mL
                                                                    123 mL
   PO:
   TF:
   IVF:
                                                                    151 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    610 mL
   Urine:
                                                                    405 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -254 mL
                                                                   -487 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 255 (255 - 255) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/48/66/29/3
   Ve: 5.6 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   139 K/uL
   9.9 g/dL
   204 mg/dL
   2.9 mg/dL
   29 mEq/L
   3.6 mEq/L
   44 mg/dL
   108 mEq/L
   145 mEq/L
   31.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2114-7-21**]  05:17 PM
                             [**2114-7-21**]  05:30 PM
                             [**2114-7-22**]  05:19 AM
   WBC
   17.2
   Hct
   28.4
   31.1
   Plt
   125
   139
   Cr
   2.9
   TCO2
   31
   Glucose
   204
   Other labs: PT / PTT / INR:14.9/27.9/1.3, ALT / AST:23/12, Alk Phos / T
   Bili:752/0.5, Amylase / Lipase:44/57, Differential-Neuts:88.0 %,
   Lymph:8.3 %, Mono:2.4 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:188 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   60 y/o F with PMHx of DMII & Crohns who was transferred from OSH after
   10 day adm after being found down with pancreatitis, DKA, resp failure,
   rhadomyolysis and acute renal failure requiring intermittent dialysis.
   .
   #Leukocytosis: Etiology unclear, WBC ct has ranged from 13-30 during
   recent admission, blood Cx neg to date. C Diff negative, RIJ line was +
   beta strep presumably treated with vancomycin.  Urine Cx + 100,000
   yeast, currently treated with Fluconazole.  Pt is still receiving vanc
   for ?line infection.  Both RIJ & R sub clavian appear erythematous,
   will need to be removed and sent for culture.  Pt has been afebrile,
   CXR without focal infiltrate and steroids stopped on day 2 of
   admission. RUQ ultrasound shows persistent GB wall thickening but no
   other signs of cholecystitis, isolated elevation in Alk phos with
   normal Tbili is less suggestive suggestive of acalculous
   cholecystitis.  UA + WBCs, pending Cx.  D/C's diflucan last night.
   - f/u Blood/Urine Cx & sputum
   - f/[**Location 39**] read of CXR
   - d/c RIJ & dialysis line , send tips for Cx
   - change out foley
   - f/u Urine Cx, hold on empiric Abx
   - continue Vancomycin day [**8-1**] for ?line infection
   - f/u vanc trough given rapid changing renal function
   # Elevated Alk Phos: Pt was transferred due to concern of elev Alk Phos
   and GGT. Etiology still unclear, obstructive cholestasis seems unlikely
   given the repeatedly normal Tbili. Transaminases normal, hepatitis
   serologies negative. Repeated RUQ u/s show thickened GB wall with no
   stones and normal CBD, ascites but no pericholecystic fluid to suggest
   acute cholecystitis. It is unclear if this could be acalculous
   cholecystitis, would suspect that Tbili would also be elevated and pt
   would be less stable. CHF/volume overload can cause isolated Alk phos
   elevation. Fluconazole could also cause cholestatic picture.  Given h/o
   crohns, could have newly developped PSC though more commonly assoc with
   UC.   Alk Phos appears to be trending down from >900 at OSH to 750 here
   to ??? today
   - trend LFTs, Alk Phos, GGT
   - f/u BNP to evaluate for volume overload
   - NPO
   -imaging unlikely to change management
   - if not improving tomorrow would consider liver consult in am & work
   up for PSC including smooth muscle Ab, p-ANCA
   .
   # Resp Failure: Pt was intubated for airway control and has had
   prolonged intubation for unclear reasons.  Volume overload and MS
   likely contributing factors.  Per notes, attempted extubation on [**7-17**]
   but required re-intubation due to persistent hypoxia on BiPAP.
   Portable shows bilateral effusions and initial gas 7.4/48/66.  There is
   likely some component of chronic CO2 retention though no wheezing
   appreciated on exam.  Pt putting out >50cc of [**Month/Year (2) **]/hr, likely having
   post ATN natriuresis.  Chest tube still having some output
   - albuterol/atrovent nebs q6hr
   - daily wake ups
   - wean propofol
   - consider lasix with goal net negative 1-2L/day
   - monitor chest tube output, leave to suction
   - pressure support trial in am
   .
   #. Renal Failure: likely secondary to ATN and rhabdo. Currently
   improving with >50cc/hr of [**Last Name (LF) **], [**First Name3 (LF) **] be post ATN diuresis. Temporary HD
   line in place, but looks erythematous.  The only reason to continue HD
   would be for volume O/L but given auto-diuresis, this is unlikely to be
   a problem.
   - f/u renal HD team consult
   - D/C HD line (does not look clean)
   - avoid nephrotoxins, closely monitor I&O and trend BUN/Cr.
   - f/u urine lytes
   # Diarrhea/H/o Crohns: Pt with recurrent diarrhea that has been C Diff
   negative.  Elev WBC ct could also be related to Crohns flair and
   unclear if pt has been on any mainetenance meds.  Pt had episodes of
   hematochezia at OSH and admission CT showed distal enteritis.
   - f/u repeat C Diff
   - OSH records for Crohn's
   - consider GI consult for colonoscopy in am vs. empiric treatment with
   steroids
   - consider repeat CT scan
   .
   # MS changes: Baseline MS is unclear but was improving at OSH.
   Unresponsiveness here likely due to boluses of sedation in transfer,
   waking up overnight.
   - will wean sedation & monitor
   - consider head CT if no improvement
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale insulin.
   - continue regular insulin sliding scale
   -f/u OSH records
   .
   # FEN: NPO for now, CXR to confirmed OG tube placement.
   -restart TF
   - gentle 250cc boluses to maintain sbp
   - monitor lytes, replete aggressively
   .
   # Access: RIJ & subclavian temporary dialysis line
   - both should be removed today,  replace with 2 PIV
   .
   # PPx: Heparin sc TID, PPI, bowel regimen
   .
   # Code: presume FULL
   .
   # Dispo: ICU
   .
   # Comm: with sister, [**Name (NI) 1387**] [**Telephone/Fax (1) 1388**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-21**] 04:33 PM
   Dialysis Catheter - [**2114-7-21**] 04:35 PM
   20 Gauge - [**2114-7-21**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-22 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old female admitted [**7-10**] to OSH after found down [**7-1**] h and on
   arrival with hypothermia, hypotension, DKA, pancreatitis, rhabdo, acute
   renal failure, acute resp failure, MS changes. Transferred here with
   increasing alkP and GGT raising concern for cholestatic picture.
   24 Hour Events:
 MULTI LUMEN - START [**2114-7-21**] 04:33 PM
 DIALYSIS CATHETER - START [**2114-7-21**] 04:35 PM
 BLOOD CULTURED - At [**2114-7-21**] 09:51 PM
 EKG - At [**2114-7-21**] 09:51 PM
 URINE CULTURE - At [**2114-7-21**] 09:51 PM
 SPUTUM CULTURE - At [**2114-7-22**] 04:13 AM
   History obtained from Medical records, ICU
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-7-22**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-22**] 08:17 AM
   Other medications:
   hep, protonix, propofol gtt, SSI, vanco, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-22**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 50 (50 - 71) bpm
   BP: 117/54(70) {106/49(64) - 132/71(81)} mmHg
   RR: 24 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 6 (5 - 6)mmHg
   Total In:
                                                                    151 mL
                                                                    159 mL
   PO:
   TF:
   IVF:
                                                                    151 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    970 mL
   Urine:
                                                                    405 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -254 mL
                                                                   -811 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 255 (255 - 255) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/48/66/27/3
   Ve: 5.7 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese, dimished/no bs
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   139 K/uL
   182 mg/dL
   2.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   46 mg/dL
   107 mEq/L
   145 mEq/L
   31.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2114-7-21**]  05:17 PM
                             [**2114-7-21**]  05:30 PM
                             [**2114-7-22**]  05:19 AM
   WBC
   17.2
   15.9
   Hct
   28.4
   31.1
   Plt
   125
   139
   Cr
   2.9
   2.9
   TCO2
   31
   Glucose
   204
   182
   Other labs: PT / PTT / INR:14.0/26.8/1.2, ALT / AST:18/11, Alk Phos / T
   Bili:699(decreasing)/0.5 , Amylase / Lipase:41/65,
   Differential-Neuts:85.2 %, Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, LDH:172 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR: Still with bilateral effusions; somewhat better
   visualized lung fields today
   Assessment and Plan
   60 year old female with pancreatitis, DKA, ARF, acute resp failure
   *Resp failure: volume overload and MS the major obstacles
   -Attempt sedation wean and attempt prn bolus sedation
   -Keep negative with diuresis if needed
   -Try change to PSV
   *MS changes: has received significant sedation. Previously functional
   but new baseline (was found down for a long time) unclear
   -Attempt to wean sedation
   *Elevated alkP- appears slightly decreased today, continue to f/u
   *Leukocytosis: levels unchanged. Still on vanc for OSH line infxn. Will
   change lines
   *ARF: renal function has been unchanged. Developing hypokalemia,
   hypertraemia with auto-diuresis-- replete and recheck
   *Crohn's: attempt to recover records abt outpt  regimen
   *DM now on SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-21**] 04:33 PM
   Dialysis Catheter - [**2114-7-21**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-07-23 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday, tolerated PSV 10/5 Vt 500 Fio2 40% for 8 hours.  Tried to
   wean propofol, but became agitated on anything less than 50.  Put back
   on AC to rest overnight, Fi02 50%.
   Continued to have good urine output (autodiuresis) -1.7 L for 24
   hours.  Liquid stool.
 MULTI LUMEN - STOP [**2114-7-22**] 01:06 PM
 DIALYSIS CATHETER - STOP [**2114-7-22**] 05:04 PM
 MULTI LUMEN - START [**2114-7-22**] 05:04 PM
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-7-22**] 08:17 AM
   Midazolam (Versed) - [**2114-7-22**] 02:18 PM
   Fentanyl - [**2114-7-22**] 02:23 PM
   Heparin Sodium (Prophylaxis) - [**2114-7-23**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-23**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 58 (50 - 97) bpm
   BP: 127/61(77) {107/51(65) - 151/77(93)} mmHg
   RR: 9 (0 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    603 mL
                                                                    160 mL
   PO:
             TF:
             11 mL
   IVF:
                                                                    603 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    890 mL
   Urine:
                                                                  2,235 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,737 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 246 (246 - 383) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 119
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/42/106/27/0
   Ve: 6.5 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   9.6 g/dL
   153 mg/dL
   2.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   44 mg/dL
   112 mEq/L
   149 mEq/L
   29.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2114-7-21**]  05:17 PM
                             [**2114-7-21**]  05:30 PM
                             [**2114-7-22**]  05:19 AM
                             [**2114-7-22**]  07:00 PM
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
   WBC
   17.2
   15.9
   14.3
   Hct
   28.4
   31.1
   29.8
   Plt
   125
   139
   160
   Cr
   2.9
   2.9
   3.0
   2.9
   TCO2
   31
   28
   27
   Glucose
   [**Telephone/Fax (3) 1401**]53
   Other labs: PT / PTT / INR:14.2/32.3/1.2, ALT / AST:17/13, Alk Phos / T
   Bili:613/0.4, Amylase / Lipase:44/73, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:3.0
   g/dL, LDH:200 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   60 y/o F with PMHx of DMII & Crohns who was transferred from OSH after
   10 day adm after being found down with pancreatitis, DKA, resp failure,
   rhadomyolysis and acute renal failure requiring intermittent dialysis.
   # Resp Failure: Pt was intubated for airway control and has had
   prolonged intubation for unclear reasons.  Volume overload and MS
   likely contributing factors.  Per notes, attempted extubation on [**7-17**]
   but required re-intubation due to persistent hypoxia on BiPAP.  There
   is likely some component of chronic CO2 retention though no wheezing
   appreciated on exam.  Pt. tolerated PS most of yesterday, but is
   difficult to wean from propofol.
   - wean to PS, daily SBTs, RSBIs and wake ups
   - albuterol/atrovent nebs q6hr
   -change to fentanyl and midazolam, wean propofol
   - goal net negative 1-2L/day
   - monitor chest tube output, leave to suction
   #Leukocytosis: Etiology unclear, WBC ct has ranged from 13-30 during
   recent admission, always afebrile, blood Cx neg to date. C Diff
   negative, RIJ line was + beta strep presumably treated with
   vancomycin.  Urine Cx + 100,000 yeast, treated with Fluconazole.  Both
   RIJ & R sub clavian appear erythematous.  CXR without focal infiltrate
   and steroids stopped on day 2 of admission. RUQ ultrasound shows
   persistent GB wall thickening but no other signs of cholecystitis,
   isolated elevation in Alk phos with normal Tbili, now trending down, is
   less suggestive suggestive of acalculous cholecystitis.  UA + WBCs,
   pending Cx.  D/C'd diflucan last night. Foley changed. WBC trending
   down.
   - f/u Blood/Urine Cx & sputum
   - f/u tip cultures
   - last day of Vancomycin- day [**8-31**] for ?line infection
   # Elevated Alk Phos: Pt was transferred due to concern of elev Alk Phos
   and GGT. Etiology still unclear, obstructive cholestasis seems unlikely
   given the repeatedly normal Tbili. Transaminases normal, hepatitis
   serologies negative. Repeated RUQ u/s show thickened GB wall with no
   stones and normal CBD, ascites but no pericholecystic fluid to suggest
   acute cholecystitis. It is unclear if this could be acalculous
   cholecystitis, would suspect that Tbili would also be elevated and pt
   would be less stable. CHF/volume overload can cause isolated Alk phos
   elevation. Fluconazole could also cause cholestatic picture.  Given h/o
   crohns, could have newly developped PSC though more commonly assoc with
   UC.   Alk Phos appears to be trending down from >900 at OSH to 617
   today
   - trend LFTs, Alk Phos, GGT
   - NPO
   -imaging unlikely to change management
   - if trend revereses, would consider liver consult in am & work up for
   PSC including smooth muscle Ab, p-ANCA
   #. Renal Failure: ATN [**12-23**] rhabdo. Currently improving with >100cc/hr of
   UOP, likely post ATN diuresis. HD line d/c'd yesterday (line from OSH)
   as no HD needed in immediate future
   - f/u renal recs
   - avoid nephrotoxins, closely monitor I&O and trend BUN/Cr.
   # Diarrhea: Pt with recurrent loose stool that has been C Diff
   negative.  Most likely [**12-23**] crohn's disease.  Pt had episodes of
   hematochezia at OSH and admission CT showed distal enteritis.
   - OSH records for Crohn's
   - if continued diarrhea, could consider empiric treatment for Crohns.
   Particularly if chronic diarrhea causes metabolic alkalosis and a
   compensatory respiratory acidosis.
   # MS changes: Since hospitalization, her new baseline MS is unclear.
   Thought to be improving at OSH.  Unresponsiveness yesterday due to
   boluses of sedation in transfer, waking up overnight.  Agitation off
   propofol is impeding ability to look at baseline MS.
   [**Name14 (STitle) 1402**] wean sedation & monitor
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale insulin.
   - continue regular insulin sliding scale
   -f/u OSH records
   # FEN: hypernatremia
   -started TF yesterday, bolus w/free water given hypernatremia
   - monitor lytes, replete aggressively
   # Access: new central line placed yesterday
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: ICU
   .
   # Comm: with sister, [**Name (NI) 1387**] [**Telephone/Fax (1) 1388**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-7-23**] 05:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-23 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old female with [**Hospital 1403**] transferred from OSH during
   hospitalization for DKA, pancreatitis, ARF, resp failure. Transferred
   here for abnormal LFT's
   24 Hour Events:
 MULTI LUMEN - STOP [**2114-7-22**] 01:06 PM
 DIALYSIS CATHETER - STOP [**2114-7-22**] 05:04 PM
 MULTI LUMEN - START [**2114-7-22**] 05:04 PM
   Tolerated PSV
   Propofol wean attempted but pt  became agitated
   Continued liquid stool
   OSH  lines (right CVL and HD catheter) removed
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-23**] 08:15 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2114-7-22**] 02:18 PM
   Fentanyl - [**2114-7-22**] 02:23 PM
   Pantoprazole (Protonix) - [**2114-7-23**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-23**] 08:15 AM
   Other medications:
   Hep SQ, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-23**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 51 (49 - 97) bpm
   BP: 116/52(68) {107/51(65) - 151/77(93)} mmHg
   RR: 13 (5 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    603 mL
                                                                    574 mL
   PO:
             TF:
             34 mL
   IVF:
                                                                    603 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                  1,090 mL
   Urine:
                                                                  2,235 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,737 mL
                                                                   -516 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 246 (246 - 383) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 119
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/42/106/27/0
   Ve: 6.1 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal, Absent), (S2: Normal), No(t)
   S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Tender: , hypoactive BS
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   160 K/uL
   153 mg/dL
   2.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   44 mg/dL
   112 mEq/L
   149 mEq/L
   29.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2114-7-21**]  05:17 PM
                             [**2114-7-21**]  05:30 PM
                             [**2114-7-22**]  05:19 AM
                             [**2114-7-22**]  07:00 PM
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
   WBC
   17.2
   15.9
   14.3
   Hct
   28.4
   31.1
   29.8
   Plt
   125
   139
   160
   Cr
   2.9
   2.9
   3.0
   2.9
   TCO2
   31
   28
   27
   Glucose
   [**Telephone/Fax (3) 1401**]53
   Other labs: PT / PTT / INR:14.2/32.3/1.2, ALT / AST:17/13, Alk Phos / T
   Bili:613 (decreasing)/0.4, Amylase / Lipase:44/73,
   Differential-Neuts:85.2 %, Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:200 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR this am (viewed): lo
   Microbiology: Blood and cath tip cultures pending
   Assessment and Plan
   60 year old female with complicated recent hospitalziation including
   DKA, pancreatitis, hypothermia, acute renal failure, acute respiratory
   failure
   *Resp failure: Did reasonably on PSV yesterday, will attempt wean today
     continue to work on weaning sedation. Mental status likely represents
   the biggest barrier to extubation though we should also ensure that her
   I
s remain negative
   *Leukocytosis: trending down, cultures negative to date.
     To finish 10 day course of vanco for OSH line infection. F/u line
   cultures sent yesterday
   *Elevated alkP: Also decreasing. Given improvement, suspect related to
   drug rxn (was on diflucan) vs hepatic congestion from volume overload.
   Will continue to monitor.
   *ARF: Renal function unchanged, no need for HD.
   *Diarrhea: Cdiff samples pending
   *MS changes: Trying to wean sedation, however will also obtain head CT
   as this was last checked on the day of her admission to OSH [**7-10**].  She
   had been down and unresponsive with low BP, low temp for 8-10 hours
   prior to OSH admission so her neurological baseline may have changed.
   *Hypernatremia evolving after post-ATN autodiuresis: will add free
   water and re-check lytes
   Other issues as per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-7-23**] 05:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-07-24 11:10:00 Physician Attending Progress Note
Chief Complaint: Found unresponsive
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old female with DM, who was found unresponsive on the floor -
   taken to OSH ([**7-10**]) and found to be in DKA, rhabdo, ARF,
   Attempted to extubate on [**7-17**] but failed.
   Yesterday, had HCT scan because still poor neurologic function and was
   normal.
   24 Hour Events:
   Still poor mental status.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-24**] 08:18 AM
   Infusions:
   Midazolam (Versed) - 3.5 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-7-23**] 10:35 AM
   Fentanyl - [**2114-7-23**] 06:17 PM
   Pantoprazole (Protonix) - [**2114-7-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-24**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   1) DM
   2) Chrohn's Disease
   3)
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable (intubated)
   Flowsheet Data as of  [**2114-7-24**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 57 (48 - 133) bpm
   BP: 115/51(67) {100/47(63) - 166/89(104)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  1,484 mL
                                                                  1,106 mL
   PO:
             TF:
                                                                    327 mL
                                                                    317 mL
   IVF:
                                                                    907 mL
                                                                    609 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,230 mL
   Urine:
                                                                  1,977 mL
                                                                  1,205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,016 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 451 (451 - 464) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: 7.34/49/69/24/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: No acute distress; intubated and vented
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Warm and dry
   Neurologic: Poorly responsive: Not assessed, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   187 K/uL
   172 mg/dL
   2.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   38 mg/dL
   111 mEq/L
   148 mEq/L
   32.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2114-7-21**]  05:17 PM
                             [**2114-7-21**]  05:30 PM
                             [**2114-7-22**]  05:19 AM
                             [**2114-7-22**]  07:00 PM
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
   WBC
   17.2
   15.9
   14.3
   14.0
   13.1
   Hct
   28.4
   31.1
   29.8
   31.6
   32.0
   Plt
   125
   139
   160
   196
   187
   Cr
   2.9
   2.9
   3.0
   2.9
   2.7
   2.4
   TCO2
   31
   28
   27
   28
   Glucose
   [**Telephone/Fax (3) 1401**]53
   135
   172
   Other labs: PT / PTT / INR:14.2/32.3/1.2, ALT / AST:18/14, Alk Phos / T
   Bili:654/0.5, Amylase / Lipase:37/60, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:192 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   A:
   1) Altered Mental Status
   - Review initial presentation to try to gain more insight into reason
   for persistent depressed mental status.
   - Haldol and wean sedation as tolerated
   - Thiamine
   2) Acute Respiratory Failure: Will continue to wean although limiting
   factor is mental status at this point.  See addendum note below for
   details on MS [**Name13 (STitle) 1424**] and plan.  If improved MS, will attempt to
   wean/extubate.
   3) Leukocytosis: Unclear etiology. Follow and monitor fevers. Will
   repeat abd ct scan to rule out any complication from pancreatitis
   4) Acute Renal Failure: Likely secondary to ATN at this point.  Now
   urine output improving and creatinine stable.
   5) Diarrhea: Check C. Dif.
   Addendum: Reviewed initial history and unclear reason for being found
   down though could be related to uncontrolled DM leading to DKA (less
   common given previously non-insuliin dependent) or sepsis-induced
   although no clear source.  Also, given persistent elevated alk phos, GI
   was consulted and raised the possibility of occult cirrhosis.  Thus,
   will give lactulose to see if MS improves.  We have also added thiamine
   to the regimen and will check an MRV/MRI to rule out cerebral sinus
   thrombosis as this is also associated with Chrohn
s disease.  Will also
   give haldol and wean sedation as tolerated.  If mental status does not
   improve with these [**Last Name (LF) 1425**], [**First Name3 (LF) **] consider further evaluation
   including EEG/LP/neuro.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-7-24**] 09:44 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 (Critical Care)

2114-07-24 15:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Head CT yesterday: No evidence of acute intra-craneal bleed.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-24**] 08:18 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2114-7-23**] 06:17 PM
   Pantoprazole (Protonix) - [**2114-7-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-24**] 08:19 AM
   Morphine Sulfate - [**2114-7-24**] 12:10 PM
   Haloperidol (Haldol) - [**2114-7-24**] 12:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-24**] 03:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 90 (51 - 165) bpm
   BP: 111/54(68) {89/45(62) - 169/110(122)} mmHg
   RR: 18 (9 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  1,484 mL
                                                                  2,233 mL
   PO:
             TF:
                                                                    327 mL
                                                                    365 mL
   IVF:
                                                                    907 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,991 mL
   Urine:
                                                                  1,977 mL
                                                                  1,645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,016 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (451 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.34/49/69/26/0
   Ve: 7 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   10.2 g/dL
   170 mg/dL
   2.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   34 mg/dL
   115 mEq/L
   150 mEq/L
   32.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2114-7-21**]  05:30 PM
                             [**2114-7-22**]  05:19 AM
                             [**2114-7-22**]  07:00 PM
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
   WBC
   17.2
   15.9
   14.3
   14.0
   13.1
   Hct
   28.4
   31.1
   29.8
   31.6
   32.0
   Plt
   125
   139
   160
   196
   187
   Cr
   2.9
   2.9
   3.0
   2.9
   2.7
   2.4
   2.3
   TCO2
   28
   27
   28
   Glucose
   [**Telephone/Fax (3) 1401**]53
   135
   172
   170
   Other labs: PT / PTT / INR:14.2/32.3/1.2, ALT / AST:18/14, Alk Phos / T
   Bili:654/0.5, Amylase / Lipase:37/60, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:192 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   60 y/o F with PMHx of DMII & Crohns who was transferred from OSH after
   10 day adm after being found down with pancreatitis, DKA, resp failure,
   rhadomyolysis and acute renal failure requiring intermittent dialysis.
   # Resp Failure: Patient was intubated most likely due to airway
   protection and new O2 requirements in the setting of agitation and
   non-possible non-invasive measures. Patient tried to be intubated in
   [**7-17**], but became hypoxic on BiPAP and agitated, so required
   re-inubation for airway protection. Patient still very agitated and
   with high-requirements of sedation medication. Non-responsive to verbal
   stimuli
   Pt was intubated for airway control and has had prolonged intubation
   for unclear reasons.  Volume overload and MS [**First Name (Titles) 1418**] [**Last Name (Titles) 1419**]
   factors.  Per notes, attempted extubation on [**7-17**] but required
   re-intubation due to persistent hypoxia on BiPAP.  There is likely some
   component of chronic CO2 retention though no wheezing appreciated on
   exam.  Pt. tolerated PS most of yesterday, but is difficult to wean
   from propofol.
   - wean to PS, daily SBTs, RSBIs and wake ups
   - albuterol/atrovent nebs q6hr
   - change to fentanyl and midazolam, wean propofol
   - goal net negative 1-2L/day
   - monitor chest tube output, leave to suction
   # Leukocytosis: Etiology unclear, WBC ct has ranged from 13-30 during
   recent admission, always afebrile, blood Cx neg to date. C Diff
   negative, RIJ line was + beta strep presumably treated with
   vancomycin.  Urine Cx + 100,000 yeast, treated with Fluconazole.  Both
   RIJ & R sub clavian appear erythematous.  CXR without focal infiltrate
   and steroids stopped on day 2 of admission. RUQ ultrasound shows
   persistent GB wall thickening but no other signs of cholecystitis,
   isolated elevation in Alk phos with normal Tbili, now trending down, is
   less suggestive suggestive of acalculous cholecystitis.  UA + WBCs,
   pending Cx.  D/C'd diflucan last night. Foley changed. WBC trending
   down.
   - f/u Blood/Urine Cx & sputum
   - f/u tip cultures
   - last day of Vancomycin- day [**8-31**] for ?line infection
   # Elevated Alk Phos: Pt was transferred due to concern of elev Alk Phos
   and GGT. Etiology still unclear, obstructive cholestasis seems unlikely
   given the repeatedly normal Tbili. Transaminases normal, hepatitis
   serologies negative. Repeated RUQ u/s show thickened GB wall with no
   stones and normal CBD, ascites but no pericholecystic fluid to suggest
   acute cholecystitis. It is unclear if this could be acalculous
   cholecystitis, would suspect that Tbili would also be elevated and pt
   would be less stable. CHF/volume overload can cause isolated Alk phos
   elevation. Fluconazole could also cause cholestatic picture.  Given h/o
   crohns, could have newly developped PSC though more commonly assoc with
   UC.   Alk Phos appears to be trending down from >900 at OSH to 617
   today
   - trend LFTs, Alk Phos, GGT
   - NPO
   -imaging unlikely to change management
   - if trend revereses, would consider liver consult in am & work up for
   PSC including smooth muscle Ab, p-ANCA
   #. Renal Failure: ATN [**12-23**] rhabdo. Currently improving with >100cc/hr of
   UOP, likely post ATN diuresis. HD line d/c'd yesterday (line from OSH)
   as no HD needed in immediate future
   - f/u renal recs
   - avoid nephrotoxins, closely monitor I&O and trend BUN/Cr.
   # Diarrhea: Pt with recurrent loose stool that has been C Diff
   negative.  Most likely [**12-23**] crohn's disease.  Pt had episodes of
   hematochezia at OSH and admission CT showed distal enteritis.
   - OSH records for Crohn's
   - if continued diarrhea, could consider empiric treatment for Crohns.
   Particularly if chronic diarrhea causes metabolic alkalosis and a
   compensatory respiratory acidosis.
   # MS changes: Since hospitalization, her new baseline MS is unclear.
   Thought to be improving at OSH.  Unresponsiveness yesterday due to
   boluses of sedation in transfer, waking up overnight.  Agitation off
   propofol is impeding ability to look at baseline MS.
   [**Name14 (STitle) 1402**] wean sedation & monitor
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale insulin.
   - continue regular insulin sliding scale
   -f/u OSH records
   # FEN: hypernatremia
   -started TF yesterday, bolus w/free water given hypernatremia
   - monitor lytes, replete aggressively
   # Access: new central line placed yesterday
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: ICU
   # Comm: with sister, [**Name (NI) 1387**] [**Telephone/Fax (1) 1388**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-25 06:34:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure and very high risk of aspiration
   24 Hour Events:
   Tube feeds restarted yesterday, but patient nauseous. Tube feeds
   stopped.
   Increased free water boluses.
   Pt had D5W @100cc/hr for 5 hours
   CT scan of the abdomen:
   1. Mild thickening of the distal terminal ileal wall and cecum
   compatible with Crohn's disease. No evidence of active inflammation.
   2. Bilateral large consolidations with associated pleural effusions,
   left greater than right, are suspicious for pneumonia. Mild mediastinal
   lymphadenopathy may be reactive. Right chest tube is positioned within
   the
   minor fissure.
   3. Evidence of anasarca and pulmonary edema.
   4. Endotracheal tube terminates approximately 2 cm above the carina.
   Repositioning by moving the tube approximately 2 cm superiorly is
   suggested.
   5. Mildly distended gallbladder without evidence of gallstones.
   6. Mild intra-abdominal and pelvic ascites. No large intra-abdominal
   fluid collection.
   GI: Crohn's flare unlikely
   Pleural fluid: transudate by Light's criteria
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-24**] 08:18 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-7-24**] 08:00 AM
   Morphine Sulfate - [**2114-7-24**] 12:10 PM
   Haloperidol (Haldol) - [**2114-7-24**] 12:24 PM
   Heparin Sodium (Prophylaxis) - [**2114-7-25**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-25**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 53 (51 - 165) bpm
   BP: 118/60(74) {89/45(62) - 169/110(122)} mmHg
   RR: 12 (9 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,135 mL
                                                                  1,574 mL
   PO:
             TF:
                                                                    456 mL
                                                                    152 mL
   IVF:
                                                                  1,134 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                  2,781 mL
                                                                  1,180 mL
   Urine:
                                                                  2,415 mL
                                                                  1,030 mL
   NG:
   20 mL
   Stool:
   Drains:
   Balance:
                                                                    354 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 268 (268 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: ///26/
   Ve: 13.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   9.2 g/dL
   211 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   27 mg/dL
   110 mEq/L
   147 mEq/L
   28.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2114-7-22**]  05:19 AM
                             [**2114-7-22**]  07:00 PM
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
   WBC
   15.9
   14.3
   14.0
   13.1
   9.3
   Hct
   31.1
   29.8
   31.6
   32.0
   28.4
   Plt
   139
   160
   196
   187
   187
   Cr
   2.9
   3.0
   2.9
   2.7
   2.4
   2.3
   2.1
   TCO2
   28
   27
   28
   Glucose
   182
   173
   153
   135
   172
   170
   211
   Other labs: PT / PTT / INR:13.5/29.0/1.1, ALT / AST:19/36, Alk Phos / T
   Bili:618/0.4, Amylase / Lipase:37/60, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:2.8
   g/dL, LDH:214 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   THIS IS YESTERDAYS PLAN ONLY USED FOR ROUNDS PURPOSES. FINAL PLAN FOR
   TODAY WILL BE POSTED LATER TODAY
   60 y/o F with PMHx of DMII & Crohns who was transferred from OSH after
   10 day adm after being found down with pancreatitis, DKA, resp failure,
   rhadomyolysis and acute renal failure requiring intermittent dialysis.
   # Resp Failure: Patient was intubated most likely due to airway
   protection and new O2 requirements in the setting of agitation and
   non-possible non-invasive measures. Patient tried to be intubated in
   [**7-17**], but became hypoxic on BiPAP and agitated, so required
   re-inubation for airway protection. Patient still very agitated and
   with high-requirements of sedation medication. Non-responsive to verbal
   stimuli, only to pain. Patient also with chest tube and resolving
   pneumothorax and pleural fluid.
   - Stop Fentanyl/Midazolan
   - Start Propofol for sedation
   - Morphine PRN pain
   - Haldol PRN agitation
   - albuterol/atrovent nebs q6hr
   - goal net negative 1-2L/day
   - monitor chest tube output, leave to suction
   - Contult thoracics for chest tube pull out
   # Leukocytosis: Etiology unclear, WBC ct has ranged from 13-30 during
   recent admission, always afebrile, blood Cx neg to date. C Diff
   negative, RIJ line was + beta strep presumably treated with
   vancomycin.  Urine Cx + 100,000 yeast, treated with Fluconazole.  In
   the setting of [**Last Name (un) 1420**]
s without any current medications and agitated
   patient, it is unclear if this is the cause of the persistent
   leukocytosis.
   -          Consult GI for possible [**Last Name (un) 1420**]
s filaire
   -          Review data for past LP and analyze the possibility of one
   if patient not improving
   -          F/u WBC tomorrow
   -          F/u blood and urine cultures
   -          F/u tip culture
   -          Stop vancomycin today
   # Elevated Alk Phos: Pt was transferred for concerned of elevated Alk
   Phos and elevated GGT. Etiology unclear, but there is not a colestatic
   patern. CHF can also increase alk phos. Nicely trending down.
   -          Consult GI for possible PSC in setting of [**Last Name (un) 1420**]
   -          F/u l
   - trend LFTs, Alk Phos, GGT
   - NPO
   -imaging unlikely to change management
   - If patient not adequately responding, then may need CT of abdomen
   #. Renal Failure: Creatinine improved today. Now with >100cc/hr of UOP,
   likely post ATN diuresis.
   - f/u renal recs
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # Diarrhea: Resolved.
   # MS changes: Same as yesterday.
   -will stop fentanyl and start propofol
   - Will give Haldol PRN
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   -f/u OSH records
   # FEN: hypernatremia
   -started TF yesterday, bolus w/free water given hypernatremia
   - monitor lytes, replete aggressively
   # Access: new central line placed on [**7-22**]
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: ICU
   # Comm: with sister, [**Name (NI) 1387**] [**Telephone/Fax (1) 1388**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-7-24**] 07:29 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-25 12:38:00 Physician Attending Progress Note
Chief Complaint: Unresponsive
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, received lactulose, thiamine, haldol, and was changed to
   propofol.  No attempt for weaning this morning yet.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-24**] 08:18 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2114-7-24**] 12:10 PM
   Haloperidol (Haldol) - [**2114-7-24**] 12:24 PM
   Pantoprazole (Protonix) - [**2114-7-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-25**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: UNABLE
   Flowsheet Data as of  [**2114-7-25**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 55 (51 - 165) bpm
   BP: 118/56(70) {89/45(62) - 169/110(122)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,143 mL
                                                                  2,987 mL
   PO:
             TF:
                                                                    456 mL
                                                                    270 mL
   IVF:
                                                                  1,142 mL
                                                                  1,297 mL
   Blood products:
   Total out:
                                                                  2,781 mL
                                                                  1,850 mL
   Urine:
                                                                  2,415 mL
                                                                  1,700 mL
   NG:
   20 mL
   Stool:
   Drains:
   Balance:
                                                                    362 mL
                                                                  1,137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 268 (268 - 268) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 5.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   187 K/uL
   211 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   27 mg/dL
   110 mEq/L
   147 mEq/L
   28.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2114-7-22**]  05:19 AM
                             [**2114-7-22**]  07:00 PM
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
   WBC
   15.9
   14.3
   14.0
   13.1
   9.3
   Hct
   31.1
   29.8
   31.6
   32.0
   28.4
   Plt
   139
   160
   196
   187
   187
   Cr
   2.9
   3.0
   2.9
   2.7
   2.4
   2.3
   2.1
   TCO2
   28
   27
   28
   Glucose
   182
   173
   153
   135
   172
   170
   211
   Other labs: PT / PTT / INR:13.5/29.0/1.1, ALT / AST:19/36, Alk Phos / T
   Bili:618/0.4, Amylase / Lipase:37/60, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:2.8
   g/dL, LDH:214 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure:
   -          Wean propofol and continue haldol  - perform SBT
   -
   2)       Mental Status Change:
   -          Review MRI/MRV, continue lactulose, thiamine, haldol
   -          Re-evaluate mental status this afternoon when weaning the
   propofol
   3)       Elevated alk phos
   4)       Acute renal failure: ATN
   5)       Pneumothorax: Resolved and no present on CT scan; will remove
   chest tube today
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-7-25**] 10:21 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2114-07-26 06:35:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure after DKA, pancreatitis and shock
   liver.
   24 Hour Events:
 EKG - At [**2114-7-25**] 08:19 PM
   Propofol was waned down, but patient got very agitated and combative
   with HR in 200s despite being pre-medicated with haloperido.
   ABGs checked: routine
   MRI of the brain done yesterday, which was unremarkable.
   Chest tube was removed
   EEG was done.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-24**] 08:18 AM
   Infusions:
   Propofol - 55 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-7-25**] 08:00 AM
   Hydromorphone (Dilaudid) - [**2114-7-25**] 02:13 PM
   Heparin Sodium (Prophylaxis) - [**2114-7-25**] 04:32 PM
   Morphine Sulfate - [**2114-7-25**] 10:04 PM
   Haloperidol (Haldol) - [**2114-7-26**] 02:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.8
   HR: 71 (51 - 108) bpm
   BP: 138/59(78) {106/50(63) - 173/99(115)} mmHg
   RR: 12 (12 - 44) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  4,125 mL
                                                                  1,158 mL
   PO:
             TF:
                                                                    708 mL
                                                                    329 mL
   IVF:
                                                                  1,697 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  3,838 mL
                                                                  1,680 mL
   Urine:
                                                                  3,688 mL
                                                                  1,680 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    287 mL
                                                                   -522 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 18 (18 - 360) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.48/35/112/27/2
   Ve: 8.4 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GENERAL: NAD, lying in bed, not responsive to verbal or pain stimulu
   HEENT: PEERLA, no eye movements, does not follow objects
   Neck: supple, no JVD, thyroid not palpable, no bruits, no lymph nodes
   Heart: RRR, no m/r/g
   Lungs: hypoventilation in bases, ronchi in bases, rest clear
   Abdomen: Distended, pain cannot be assessed, decreased bowel movements,
   normal intercostal reflexes
   Extremities: warm, palpable pulses bilaterally in 4 extremities,
   pitting edema in hands and feet (L>R)
   Skin: no skin rashes, LIJ line in place with mild erythema where tape
   is
   Neuro: CN 5,7,9,10 intact; rest not valorable; normal tone, normal
   ROTs; not responsive to pain stimuli.
   Labs / Radiology
   251 K/uL
   9.7 g/dL
   191 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   23 mg/dL
   114 mEq/L
   148 mEq/L
   30.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
   WBC
   14.3
   14.0
   13.1
   9.3
   10.5
   Hct
   29.8
   31.6
   32.0
   28.4
   30.0
   Plt
   160
   196
   187
   187
   251
   Cr
   2.9
   2.7
   2.4
   2.3
   2.1
   2.0
   TCO2
   28
   27
   28
   27
   Glucose
   153
   135
   172
   170
   211
   191
   Other labs: PT / PTT / INR:13.4/26.7/1.1, ALT / AST:19/36, Alk Phos / T
   Bili:618/0.4, Amylase / Lipase:37/60, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:2.9
   g/dL, LDH:214 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60 y/o F with PMHx of DMII & Crohns who was transferred from OSH after
   10 day adm after being found down with pancreatitis, DKA, resp failure,
   rhadomyolysis and acute renal failure requiring intermittent dialysis.
   # Resp Failure: Patient was intubated most likely due to airway
   protection and new O2 requirements in the setting of agitation and
   non-possible non-invasive measures. Patient tried to be intubated in
   [**7-17**], but became hypoxic on BiPAP and agitated, so required
   re-inubation for airway protection. Pt still very sedated to extubate
   since she received extra propofol boluses for MRI. Chest tube was to
   water seal yesterday. No drainage and no change in CXR. Pleural fluid
   is transudate by Light
s criteria.
   - Decrease Propofol today
   - Morphine PRN pain
   - Haldol PRN agitation
   - Albuterol/atrovent nebs q6hr
   - goal net negative 1-2L/day
   - monitor chest tube output, leave to suction
   - Pull chest tube today.
   # Leukocytosis: Improved, now WBC 9.3 from 13.
   # Elevated Alk Phos: GI consulted yesterday and they suggest that
   etiology of elevated enzymes is ischemia after shock. They recommend
   following them. CT of abdomen showed disteded gallblader without stones
   or thickening; mild inflammation of terminal illeus, presence of
   ascities.
   - F/u GI recs
   - trend LFTs, Alk Phos, GGT
   - If patient not adequately responding, then may need CT of abdomen
   #. Renal Failure: Creatinine improved today. Now with >100cc/hr of UOP,
   likely post ATN diuresis.
   - f/u renal recs
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Same as yesterday.
   -will stop fentanyl and start propofol
   - Will give Haldol PRN
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   # FEN: hypernatremia in the setting of Post-ATN
   -Increase free water boluses per Tube Feed
   -D51/2NS PRN
   # Access: new central line placed on [**7-22**]
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: ICU
   # Comm: with sister, [**Name (NI) 1387**] [**Telephone/Fax (1) 1388**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-7-26**] 05:08 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-26 11:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, received haldol but remains agitated.
   Chest tube removed
   MRI normal
   24 Hour Events:
 EKG - At [**2114-7-25**] 08:19 PM
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-24**] 08:18 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2114-7-25**] 02:13 PM
   Morphine Sulfate - [**2114-7-25**] 10:04 PM
   Pantoprazole (Protonix) - [**2114-7-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-26**] 08:00 AM
   Haloperidol (Haldol) - [**2114-7-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-26**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 73 (55 - 108) bpm
   BP: 147/69(88) {118/56(70) - 173/99(115)} mmHg
   RR: 15 (12 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  4,125 mL
                                                                  1,843 mL
   PO:
             TF:
                                                                    708 mL
                                                                    508 mL
   IVF:
                                                                  1,697 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  3,838 mL
                                                                  2,565 mL
   Urine:
                                                                  3,688 mL
                                                                  2,565 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    287 mL
                                                                   -722 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 18 (18 - 360) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/35/112/27/2
   Ve: 6.6 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   251 K/uL
   191 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   23 mg/dL
   114 mEq/L
   148 mEq/L
   30.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2114-7-22**]  08:31 PM
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
   WBC
   14.3
   14.0
   13.1
   9.3
   10.5
   Hct
   29.8
   31.6
   32.0
   28.4
   30.0
   Plt
   160
   196
   187
   187
   251
   Cr
   2.9
   2.7
   2.4
   2.3
   2.1
   2.0
   TCO2
   28
   27
   28
   27
   Glucose
   153
   135
   172
   170
   211
   191
   Other labs: PT / PTT / INR:13.4/26.7/1.1, ALT / AST:19/36, Alk Phos / T
   Bili:559/0.4, Amylase / Lipase:37/60, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:2.9
   g/dL, LDH:214 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   1) Respiratory Failure: Continues to be limited by mental status
   Plan:
   - Continue AC
   - Plan for tracheostomy
   2) Low grade temperature:
   Plan: check cultures/sputum.  If [**Last Name (LF) 1445**], [**First Name3 (LF) **] consider bronch, line
   change, and empiric antibiotics
   3) Elevated Alk phos:continues to trend down
   4) Altered Mental Status: LP/EEG results
   5) DM:
   6) acute renal failure/atn: resolving
   7)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2114-07-27 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -7:30am trach
   -decreased propofol overnight- traching, responding to commands, then
   aggitated and bronchospastic. Tried morphine, haldol without success,
   increased propofol.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-24**] 08:18 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-7-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-27**] 12:13 AM
   Haloperidol (Haldol) - [**2114-7-27**] 02:00 AM
   Morphine Sulfate - [**2114-7-27**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-27**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 83 (48 - 95) bpm
   BP: 158/83(101) {101/43(59) - 167/95(111)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,272 mL
                                                                    983 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                     10 mL
   IVF:
                                                                    726 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                    780 mL
   Urine:
                                                                  4,250 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -978 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 340 (340 - 340) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 5.5 L/min
   Physical Examination
   HEENT:NCAT MMM slightly icteric sclera
   CV:RRR S1S2
   PULM: rhonchous breath sounds likely [**12-23**] newly placed trach, otherwise
   clear
   ABD: soft nontender nondistended hypoactive bs
   EXT: WWP 2+dp pulses, L hand with edema compared to R and to
   yesterday
s exam,
   Labs / Radiology
   248 K/uL
   9.3 g/dL
   162 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   23 mg/dL
   115 mEq/L
   149 mEq/L
   28.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
   WBC
   14.3
   14.0
   13.1
   9.3
   10.5
   9.3
   Hct
   29.8
   31.6
   32.0
   28.4
   30.0
   28.9
   Plt
   160
   196
   187
   187
   251
   248
   Cr
   2.9
   2.7
   2.4
   2.3
   2.1
   2.0
   1.7
   TCO2
   27
   28
   27
   Glucose
   153
   135
   172
   170
   211
   191
   162
   Other labs: PT / PTT / INR:13.6/26.9/1.2, ALT / AST:[**10-1**], Alk Phos / T
   Bili:437/0.5, Amylase / Lipase:21/35, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:2.9
   g/dL, LDH:168 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Albumin 2.9   Ca 8.2  PO4 4.8  Mg  1.8
   CSF: GS- WBC 1 RBC 42  Poly 10  Lymph 45  Mono  15
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure: Patient had successful trach placed today and continues
   on AC which will be weaned off to PS as tolerated. Still on propofol
   due to agitation yesterday when drip stopped.  Will continue to attempt
   to wean off and also consider trying different pain medications and/or
   anxiolytics. Will continue haldol for now since it may be helping.
   - Decrease Propofol today and give her another trial.
   - Haldol PRN agitation
   - Albuterol/atrovent nebs q6hr
   - goal net negative 1-2L/day
   # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Following Alk phos, which is trending down.
   - F/u GI recs if any
   - trend LFTs, Alk Phos, GGT
   #. Renal Failure: Creatinine improved today. Now with >100cc/hr of UOP,
   likely post ATN diuresis.
   - f/u renal recs
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: LP negative, EEG shows encephalopathic picture
   potentially due to toxic metabolic etiology vs. sedation medications.
   Will continue to wean off propofol while supplemental meds for pain
   and/or anxiety.
   - Haldol PRN
   -continue propofol
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   # FEN: hypernatremia in the setting of Post-ATN
   -Increase free water boluses per Tube Feed @ 400
   -D51/2NS PRN
   # Access: new central line placed on [**7-22**], PICC placement today. L
   hand edema may be [**12-23**] IV infiltrating or new PICC placement.
   -f/u CXR for PICC
   -LUE US r/o dvt
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: ICU
   # Comm: with sister, [**Name (NI) 1387**] [**Telephone/Fax (1) 1388**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   IF PEG ok to use can tolerate free water flush.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1477**] [**Name8 (MD) 1478**], MD
   on:[**2114-7-27**] 14:06 ------

2114-07-27 11:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   A little more alert but still not awake and unable to extubate
   Had trach/peg this morning
   24 Hour Events:
   Unable to get history as mental status and intubated
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2114-7-27**] 02:00 AM
   Morphine Sulfate - [**2114-7-27**] 06:27 AM
   Vecuronium - [**2114-7-27**] 07:40 AM
   Fentanyl - [**2114-7-27**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-27**] 10:20 AM
   Other medications:
   med list reviewed - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-27**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 60 (48 - 99) bpm
   BP: 114/49(65) {101/43(59) - 196/98(125)} mmHg
   RR: 13 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,272 mL
                                                                  1,309 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                     10 mL
   IVF:
                                                                    726 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,060 mL
   Urine:
                                                                  4,250 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -978 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 340 (340 - 340) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 97%
   ABG: ///27/
   Ve: 6.1 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   248 K/uL
   162 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   23 mg/dL
   115 mEq/L
   149 mEq/L
   28.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2114-7-23**]  03:19 AM
                             [**2114-7-23**]  06:25 AM
                             [**2114-7-23**]  04:23 PM
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
   WBC
   14.3
   14.0
   13.1
   9.3
   10.5
   9.3
   Hct
   29.8
   31.6
   32.0
   28.4
   30.0
   28.9
   Plt
   160
   196
   187
   187
   251
   248
   Cr
   2.9
   2.7
   2.4
   2.3
   2.1
   2.0
   1.7
   TCO2
   27
   28
   27
   Glucose
   153
   135
   172
   170
   211
   191
   162
   Other labs: PT / PTT / INR:13.6/26.9/1.2, ALT / AST:[**10-1**], Alk Phos / T
   Bili:437/0.5, Amylase / Lipase:21/35, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:2.9
   g/dL, LDH:168 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   1) Acute Respiratory Failure: likely secondary to impaired neuro status
   with underlying lung congestion
   Plan:
   - Trach performed
   - Change to pressure support and evaluate
   -  If difficulty weaning, will diurese
   2) Mental Status Change:
   Plan:
   - wean off propofol
   - haldol
   3) Increased alk phos: improving
   4) Acute Renal Failure/ATN: improving
continue to follow
   BUN/creat/urine
   5) DM:
   6) FEN: Will re-start tube feeds tomorrow
   7) Access:
   8) Upper Extremity Swelling: ultrasound to rule out DVT
   7)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-7-22**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 (patient is critically ill)

2114-07-28 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2114-7-27**] 08:15 AM
 ULTRASOUND - At [**2114-7-27**] 03:45 PM
   l upper arm ultrasound to r/o dvt- negative
 MULTI LUMEN - STOP [**2114-7-27**] 06:41 PM- d/c central line
 PICC LINE - START [**2114-7-27**] 08:16 PM
   picc placed in right antecub. today. heat applied, flushed with pulse
   method, easily flushed
 FEVER - 101.5
F - [**2114-7-27**] 08:00 PM- pancultured for fever
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2114-7-27**] 07:40 AM
   Fentanyl - [**2114-7-27**] 08:45 AM
   Haloperidol (Haldol) - [**2114-7-27**] 02:25 PM
   Heparin Sodium (Prophylaxis) - [**2114-7-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-28**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 95 (60 - 120) bpm
   BP: 162/70(129) {114/44(65) - 196/98(129)} mmHg
   RR: 23 (13 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 75 kg
   Height: 61 Inch
                  Total In:
                                                                  1,756 mL
                                                                    460 mL
   PO:
                  TF:
                                                                     10 mL
   IVF:
                                                                    796 mL
   Blood products:
   Total out:
                                                                  2,795 mL
                                                                  1,090 mL
   Urine:
                                                                  2,795 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,039 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 486 (331 - 486) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 114
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.41/37/81.[**Numeric Identifier 218**]/24/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 162
   Physical Examination
   HEENT: NCAT MMM sclera icteric (L eye>R eye)
   CV: RRR S1S2
   PULM: clear bilaterally with scant crackles at bases while supine
   ABD: soft nontender, nondistended hypoactive bs
   EXT: WWP 2+dp pulses, improved swelling in L hand today
   SKIN: no rashes
   NEURO: patient is alert and oriented to place, interactive and responds
   to questions, tried to speak but unable to vocalize, attempted to write
   on paper but too weak. Knowns she is at [**Hospital1 695**].
   Labs / Radiology
   293 K/uL
   10.0 g/dL
   169 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.0 mEq/L
   20 mg/dL
   113 mEq/L
   150 mEq/L
   30.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2114-7-23**]  04:32 PM
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
   WBC
   13.1
   9.3
   10.5
   9.3
   10.3
   Hct
   32.0
   28.4
   30.0
   28.9
   30.7
   Plt
   187
   187
   251
   248
   293
   Cr
   2.4
   2.3
   2.1
   2.0
   1.7
   1.5
   TCO2
   28
   27
   26
   24
   Glucose
   172
   170
   211
   191
   162
   169
   Other labs: PT / PTT / INR:14.1/27.4/1.2, ALT / AST:[**11-1**], Alk Phos / T
   Bili:403/1.0, Amylase / Lipase:23/30, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:238 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure: Trach placed yesterday, on CPAP/PSV at 15/5 which will
   be weaned off to PS as tolerated. Will continue to attempt to wean off,
   although some tachypnea and hypoxia on several checks overnight. This
   is likely due to some problems with her trach placement, including
   bleeding/secretions into lung. Also, would continue to ensure negative
   fluid balance to prevent fluid retention in the lungs.
   - wean as tolerated to [**3-26**] on vent, reassess
   - Albuterol/atrovent nebs q6hr
   - goal net negative 1-2L/day
   -f/u CXR
   #Fever: likely secondary to pulmonary insult during tracheostomy
   placement. Will follow up with CXR and monitor fever curve. No need to
   restart antibiotics at this point until there is reason to believe she
   is re-infected.
   -CXR
   -monitor fever curve
   -follow WBC
   -f/u cultures
   # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Following Alk phos, which is trending down. Also history of
   Crohns disease. However currently patient is denying abdominal pain and
   not having increased or bloody BMs.
   - F/u GI recs if any
   - trend LFTs, Alk Phos, GGT
   #. Renal Failure: Creatinine continues to trend down, and UOP has been
   maintained.
   - f/u renal recs
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Sedation has been decreased and zydis added with good
   resolution of MS changes. She is able to communicate, both attempting
   to vocalize and writing on paper. Today patient was sitting in chair
   with family at bedside which is a significant improvement.
   - continue zydis as needed
   - Haldol PRN for agitation
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   # FEN: hypernatremia in the setting of Post-ATN improving with free
   water
   -1200cc free water per tube feed
   -replete electrolytes as needed
   -nutrition consult
   -follow Na
   # Access: PICC
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: ICU
   # Comm: with sister, [**Name (NI) 1387**] [**Telephone/Fax (1) 1388**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2114-7-27**] 08:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-29 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2114-7-28**] 10:04 PM
   tachy to 160, BP remained stable.
   -Good autodiuresis to -1.1L
   -Labile this AM: 50-140s
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-7-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-29**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-29**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 73 (50 - 146) bpm
   BP: 143/79(93) {115/52(69) - 161/80(99)} mmHg
   RR: 20 (13 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
                  Total In:
                                                                  2,265 mL
                                                                    581 mL
   PO:
                  TF:
                                                                    155 mL
                                                                    231 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    800 mL
   Urine:
                                                                  3,110 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,145 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 386 (386 - 503) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 144
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 9.5 L/min
   Physical Examination
   GEN: A&Ox3, pleasant, appears anxious
   HEENT: NCAT MMM L sclera significantly more icteric than R
   CV: RRR S1S2 no m/r/g appreciated
   PULM: bibasilar crackles, scant rhonchi at mid-lung bases likely [**12-23**]
   trach
   ABD: soft nontender nondistended +bs
   EXT: WWP 2+dp pulses minimal peripheral edema, no cyanosis
   Labs / Radiology
   306 K/uL
   9.4 g/dL
   130 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.1 mEq/L
   20 mg/dL
   115 mEq/L
   147 mEq/L
   29.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2114-7-24**]  05:02 AM
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
   WBC
   13.1
   9.3
   10.5
   9.3
   10.3
   8.2
   Hct
   32.0
   28.4
   30.0
   28.9
   30.7
   29.2
   Plt
   187
   187
   251
   [**Telephone/Fax (3) 1499**]
   Cr
   2.4
   2.3
   2.1
   2.0
   1.7
   1.5
   1.3
   TCO2
   27
   26
   24
   Glucose
   172
   170
   211
   191
   162
   169
   130
   Other labs: PT / PTT / INR:14.1/27.4/1.2, ALT / AST:18/30, Alk Phos / T
   Bili:419/0.8, Amylase / Lipase:23/46, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.2
   g/dL, LDH:205 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure: Trach, on CPAP/PSV at 8/5 which will be weaned off to
   PS as tolerated. This is likely due to some problems with her trach
   placement, including bleeding/secretions into lung. Also, would
   continue to ensure negative fluid balance to prevent fluid retention in
   the lungs. CXR this morning with improved lung volumes and previously
   noted opacities which appear to be improving.
   - wean as tolerated to [**3-26**] on vent, reassess
   - Albuterol/atrovent nebs prn only
   - goal net negative 1-2L/day, if slows down ok to give lasix
   -trach collar
   -speech, swallow eval
   #Fever: Initially thought to be secondary to pulmonary insult during
   tracheostomy placement. However blood cultures taken from her picc line
   grew out GPC in clusters/pairs yesterday. Will repeat cultures today
   from PICC and peripheral to evaluate need for restarting vancomycin.
   Also continue to monitor fever trend and WBC. Given improvement in
   respiratory status unlikely this is due to pulmonary etiology.
   -monitor fever curve
   -follow WBC
   -culture PICC and peripheral
   -vanco IV if spikes
   # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Following Alk phos, which is trending down. Also history of
   Crohns disease. However currently patient is denying abdominal pain and
   not having increased or bloody BMs.
   - F/u GI recs if any
   - trend alk phos- if begins to plateau will re-consult GI for other
   possible causes and treatments
   #. Renal Failure: Creatinine continues to trend down, and good UOP has
   been maintained. Continue IV fluids as needed but ideally would like to
   keep negative and encourage diuresis.
   - if autodiuresis slows, okay to give lasix as bp tolerates
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Sedation has been decreased and zydis added with good
   resolution of MS changes. She is able to communicate, both attempting
   to vocalize and writing on paper. Today patient was sitting in chair
   with family at bedside which is a significant improvement. Is slowly
   getting stronger and trying to vocalize questions.
   - continue zydis as needed
   - PT/OT evaluation, speech-n-swallow eval
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   # FEN: hypernatremia in the setting of Post-ATN improving with free
   water
   -continue free water per TF
   -replete electrolytes as needed
   -follow Na
   # Access: PICC* culture as many need to be removed
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: Pending negative cultures and no fever patient may be screened
   for rehab on Monday
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-7-28**] 12:40 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-7-27**] 08:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-30 07:20:00 Physician Resident Progress Note
Chief Complaint: 60 year old female with PMhx of borderline diabetes
   and Crohns who was trasnferred from OSH after 10 day admission after
   being found down wtih DKA, pancreatitis, respiratory failure,
   rhabdomyolysis and acute renal failure requiring intermittent dialysis.
   24 Hour Events:
 EKG - At [**2114-7-29**] 01:20 PM
 PICC LINE - STOP [**2114-7-29**] 09:08 PM
   picc placed in right antecub. today. heat applied, flushed with pulse
   method, easily flushed
   Patient with episodes of atrial flutter that appears to be secondary to
   mucus plugging. Diltiazem drip was started then 1 hour later heart rate
   to 50s in normal sinus rhythm and diltiazem drip was stopped.  Patient
   blood pressure remained stable. This is not associated with chest pain
   or drop in blood pressure. Patient continues to have thick yellow
   secretions. Tube feeds at 40 cc/hr with 250 cc flushes q 4 hours.
   Patient had PICC line from [**7-27**] which was pulled yesterday because blood
   cultures from [**7-27**] grew coag negative staph in [**11-22**] bottles. Goal I/O
   yesterday as per team was -1L, patient was only -300 earlier this
   morning, and was going to give IV lasix, however nursing was concerned
   that patient was dry and also with those thick secretions, so decided
   to hold on it for now. will re-address on rounds this morning.  Patient
   appears to be putting out a lot of urine, so will hold on diuresis at
   this time.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-29**] 03:00 PM
   Levofloxacin - [**2114-7-29**] 05:09 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2114-7-30**] 06:00 AM
   Morphine Sulfate - [**2114-7-30**] 06:00 AM
   Other medications:
   NPH [**3-26**]
   RISS
   Docusate
   Heparin
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2114-7-30**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 105 (52 - 171) bpm
   BP: 151/130(136) {94/36(51) - 168/130(136)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
                  Total In:
                                                                  2,582 mL
                                                                    781 mL
   PO:
                  TF:
                                                                    880 mL
                                                                    281 mL
   IVF:
                                                                    353 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                    990 mL
   Urine:
                                                                  2,760 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -178 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 419 (350 - 467) mL
   PS : 15 cmH2O
   RR (Set): 25
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 8.4 L/min
   Physical Examination
   General
 awake, alert, responds to commands, wrote on her paper
it is
   frusterating to not be able to talk.
   HEENT
 trach in place, EOMI
   Cards - + tachycardia, RRR, nl s1/s2, no murmurs appreciated
   Pulm
 mild rhonchi bilaterally
   Abdomen - + BS, soft, G tube in place, non-tender
   Labs / Radiology
   287 K/uL
   8.9 g/dL
   103 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   24 mg/dL
   114 mEq/L
   146 mEq/L
   27.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
   WBC
   9.3
   10.5
   9.3
   10.3
   8.2
   7.2
   Hct
   28.4
   30.0
   28.9
   30.7
   29.2
   27.3
   Plt
   187
   251
   248
   293
   306
   287
   Cr
   2.3
   2.1
   2.0
   1.7
   1.5
   1.3
   1.2
   TCO2
   27
   26
   24
   Glucose
   170
   211
   191
   162
   169
   130
   103
   Other labs: PT / PTT / INR:14.7/30.0/1.3, ALT / AST:19/18, Alk Phos / T
   Bili:324/0.5, Amylase / Lipase:23/46, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:166 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
    # Resp Failure: Trach, currently on 15/5 FiO2 of 40% (down from 50%).
   This is likely due to some problems with her trach placement, including
   bleeding/secretions into lung.
   - cxr , in comparison with study of [**7-29**], the right subclavian line has
   been removed. Enlargement of cardiac silhouette with pulmonary vascular
   congestion and bilateral pleural effusions persists.
   - wean as tolerated to [**8-26**] today on vent with ultimate goal to trach
   mask
   - Albuterol/atrovent nebs prn
   - goal net negative 1 liter /day. however nursing concern over giving
   lasix so was held, only out -300 cc yesterday, especially with concern
   for pulmonary vascular congestion, would like to diuresis if possible
   -trach collar in place
   -speech, swallow eval consult ordered, state that too early for patient
   to be evaluated at this point
   - patient started on levoquin yesterday for increased secretions
   (aspiration pneumonia coverage)
   - will re-check sputum today
    #Fever: Initially thought to be secondary to pulmonary insult during
   tracheostomy placement. However blood cultures taken from her picc line
   grew out GPC in clusters/pairs yesterday. Will repeat cultures today
   from PICC and peripheral to evaluate need for restarting vancomycin.
   Also continue to monitor fever trend and WBC. Given improvement in
   respiratory status unlikely this is due to pulmonary etiology.
   - repeat PICC culture tip wound culture pending
   - c. diff negative
   - urine culture from [**7-27**] + yeast,  UA from [**7-27**] with moderate blood,
   trace LE
   - will re-send another UA and Ucx today and follow up
   - blood culture from [**7-29**] still no growth to date
   -monitor fever curve, WBC
   - started on IV vancomycin yesterday in the setting of one positive
   blood culture, will continue for now
   - consider surveillance cultures tomorrow AM
   # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Alk phos elevated has continued to trend down since
   admission. Also history of Crohns disease s/p surgeries in the remote
   past. However currently patient is denying abdominal pain and not
   having increased or bloody BMs.
   - trend alk phos- if begins to plateau will re-consult GI for other
   possible causes and treatments
   #. Renal Failure: Creatinine elevated on admission, continues to trend
   down, now 1.2, and good UOP has been maintained. Ideally would like to
   keep negative and encourage diuresis.
   - if net + > 500 cc, will give lasix, otherwise will leave alone
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
    # MS changes: Sedation has been decreased and zydis added with good
   resolution of MS changes. Pt able to communicate, both attempting to
   vocalize and writing on paper. yesterday patient was sitting in chair
   with family at bedside which is a significant improvement. Is slowly
   getting stronger and trying to vocalize questions.
   - continue zydis as needed
   - PT/OT evaluation, speech-n-swallow eval deferred as above for now
    # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   # FEN: hypernatremia in the setting of Post-ATN improving with free
   water
   -continue free water boluses, in order to try to normalize sodium
   levels, consider increase in frequency or dose as needed
   -replete electrolytes as needed
   -follow Na
   # Access: PICC* culture, so PICC d/c yesterday, now with peripheral IV
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: would begin screening for rehab today if cultures continue to
   be negative and can wean to trach mask only
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-7-29**] 02:16 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-7-29**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-07-30 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Over the weekend, mental status improving.  Now new problems overnight.
   24 Hour Events:
 EKG - At [**2114-7-29**] 01:20 PM
 PICC LINE - STOP [**2114-7-29**] 09:08 PM
   picc placed in right antecub. today. heat applied, flushed with pulse
   method, easily flushed
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Trach
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-29**] 05:09 PM
   Vancomycin - [**2114-7-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2114-7-30**] 06:00 AM
   Morphine Sulfate - [**2114-7-30**] 06:00 AM
   Pantoprazole (Protonix) - [**2114-7-30**] 07:58 AM
   Other medications:
   Med list reviewed - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: trach in place
 unable to obtain
   Flowsheet Data as of  [**2114-7-30**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 69 (52 - 171) bpm
   BP: 130/52(71) {94/36(51) - 168/130(136)} mmHg
   RR: 21 (15 - 32) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,582 mL
                                                                  1,226 mL
   PO:
             TF:
                                                                    880 mL
                                                                    456 mL
   IVF:
                                                                    353 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                  1,495 mL
   Urine:
                                                                  2,760 mL
                                                                  1,445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -178 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 460 (363 - 467) mL
   PS : 15 cmH2O
   RR (Set): 25
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: ///26/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Trach in place
   HEENT: NC, AT
 trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: CTA bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 1+, Left: 1+
   Skin:  warm, dry
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   287 K/uL
   103 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   24 mg/dL
   114 mEq/L
   146 mEq/L
   27.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2114-7-24**]  02:31 PM
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
   WBC
   9.3
   10.5
   9.3
   10.3
   8.2
   7.2
   Hct
   28.4
   30.0
   28.9
   30.7
   29.2
   27.3
   Plt
   187
   251
   248
   293
   306
   287
   Cr
   2.3
   2.1
   2.0
   1.7
   1.5
   1.3
   1.2
   TCO2
   27
   26
   24
   Glucose
   170
   211
   191
   162
   169
   130
   103
   Other labs: PT / PTT / INR:14.7/30.0/1.3, ALT / AST:19/18, Alk Phos / T
   Bili:324/0.5, Amylase / Lipase:23/46, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:166 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   1) Acute Respiratory Failure:
   - currently with trach and on PS 15/5
   - continue to wean the PS - will change to 10
   - continue albuterol/atrovent
   2) Pneumonia:
   -  Continue antibiotics
   3) Fever: Gram positive from blood
   - Re-cultured and on vancomycin
   - PICC line and IJ removed
   4) Elevated Alk Phos: continues to decrease
   5) Acute renal failure: essentially resolved
   6) Mental Status changes: much improved.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-7-29**] 02:16 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-7-29**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU level care
   Total time spent: 35 minutes (patient is critically ill)

2114-07-31 07:13:00 Physician Resident Progress Note
Chief Complaint: Pt found down after 10 hours
   DKA
   24 Hour Events:
   Patient had another episode of AFl @ 150's treated with 10mg of IV
   dilt; now sinus
   Patient's vent settings were [**8-26**] yesterday and then [**3-26**]. Patient was
   changed to AC after AFl episode.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-29**] 05:09 PM
   Vancomycin - [**2114-7-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-7-30**] 07:58 AM
   Insulin - Regular - [**2114-7-30**] 12:26 PM
   Morphine Sulfate - [**2114-7-30**] 10:07 PM
   Diltiazem - [**2114-7-31**] 02:36 AM
   Lorazepam (Ativan) - [**2114-7-31**] 02:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-7-31**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 69 (63 - 163) bpm
   BP: 101/49(61) {101/33(51) - 194/116(127)} mmHg
   RR: 18 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
                  Total In:
                                                                  2,760 mL
                                                                    857 mL
   PO:
                  TF:
                                                                    990 mL
                                                                    357 mL
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    860 mL
   Urine:
                                                                  2,465 mL
                                                                    860 mL
   NG:
   Stool:
                                                                    160 mL
   Drains:
   Balance:
                                                                     85 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 322 (322 - 624) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   273 K/uL
   8.9 g/dL
   260 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   23 mg/dL
   111 mEq/L
   146 mEq/L
   27.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
   WBC
   9.3
   10.5
   9.3
   10.3
   8.2
   7.2
   6.5
   Hct
   28.4
   30.0
   28.9
   30.7
   29.2
   27.3
   27.5
   Plt
   187
   251
   248
   293
   306
   287
   273
   Cr
   2.1
   2.0
   1.7
   1.5
   1.3
   1.2
   1.2
   TCO2
   27
   26
   24
   Glucose
   [**Telephone/Fax (3) 1520**]69
   130
   103
   260
   Other labs: PT / PTT / INR:14.7/30.0/1.3, ALT / AST:19/18, Alk Phos / T
   Bili:324/0.5, Amylase / Lipase:23/46, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:166 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
    # Resp Failure: Trach, currently on 15/5 FiO2 of 40% (down from 50%).
   This is likely due to some problems with her trach placement, including
   bleeding/secretions into lung.
   - cxr , in comparison with study of [**7-29**], the right subclavian line has
   been removed. Enlargement of cardiac silhouette with pulmonary vascular
   congestion and bilateral pleural effusions persists.
   - wean as tolerated to [**8-26**] today on vent with ultimate goal to trach
   mask
   - Albuterol/atrovent nebs prn
   - goal net negative 1 liter /day. however nursing concern over giving
   lasix so was held, only out -300 cc yesterday, especially with concern
   for pulmonary vascular congestion, would like to diuresis if possible
   -trach collar in place
   -speech, swallow eval consult ordered, state that too early for patient
   to be evaluated at this point
   - patient started on levoquin yesterday for increased secretions
   (aspiration pneumonia coverage)
   - will re-check sputum today
    #Fever: Initially thought to be secondary to pulmonary insult during
   tracheostomy placement. However blood cultures taken from her picc line
   grew out GPC in clusters/pairs yesterday. Will repeat cultures today
   from PICC and peripheral to evaluate need for restarting vancomycin.
   Also continue to monitor fever trend and WBC. Given improvement in
   respiratory status unlikely this is due to pulmonary etiology.
   - repeat PICC culture tip wound culture pending
   - c. diff negative
   - urine culture from [**7-27**] + yeast,  UA from [**7-27**] with moderate blood,
   trace LE
   - will re-send another UA and Ucx today and follow up
   - blood culture from [**7-29**] still no growth to date
   -monitor fever curve, WBC
   - started on IV vancomycin yesterday in the setting of one positive
   blood culture, will continue for now
   - consider surveillance cultures tomorrow AM
   # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Alk phos elevated has continued to trend down since
   admission. Also history of Crohns disease s/p surgeries in the remote
   past. However currently patient is denying abdominal pain and not
   having increased or bloody BMs.
   - trend alk phos- if begins to plateau will re-consult GI for other
   possible causes and treatments
   #. Renal Failure: Creatinine elevated on admission, continues to trend
   down, now 1.2, and good UOP has been maintained. Ideally would like to
   keep negative and encourage diuresis.
   - if net + > 500 cc, will give lasix, otherwise will leave alone
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
    # MS changes: Sedation has been decreased and zydis added with good
   resolution of MS changes. Pt able to communicate, both attempting to
   vocalize and writing on paper. yesterday patient was sitting in chair
   with family at bedside which is a significant improvement. Is slowly
   getting stronger and trying to vocalize questions.
   - continue zydis as needed
   - PT/OT evaluation, speech-n-swallow eval deferred as above for now
    # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   # FEN: hypernatremia in the setting of Post-ATN improving with free
   water
   -continue free water boluses, in order to try to normalize sodium
   levels, consider increase in frequency or dose as needed
   -replete electrolytes as needed
   -follow Na
   # Access: PICC* culture, so PICC d/c yesterday, now with peripheral IV
   # PPx: Heparin sc TID, PPI, bowel regimen
   # Code:  FULL
   # Dispo: would begin screening for rehab today if cultures continue to
   be negative and can wean to trach mask only
   ICU Care
   Nutrition:
   Ensure Plus (Full) - [**2114-7-30**] 10:07 PM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2114-7-30**] 03:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2114-07-31 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Overnight, had recurrence of atrial fibrillation/flutter.  Controlled
   with diltiazem.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-29**] 05:09 PM
   Vancomycin - [**2114-7-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2114-7-30**] 12:26 PM
   Morphine Sulfate - [**2114-7-30**] 10:07 PM
   Diltiazem - [**2114-7-31**] 02:36 AM
   Lansoprazole (Prevacid) - [**2114-7-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-31**] 08:00 AM
   Lorazepam (Ativan) - [**2114-7-31**] 09:30 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Trach in place (unable)
   Flowsheet Data as of  [**2114-7-31**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 78 (63 - 163) bpm
   BP: 126/57(75) {101/33(51) - 194/116(127)} mmHg
   RR: 21 (11 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,760 mL
                                                                  1,548 mL
   PO:
             30 mL
   TF:
                                                                    990 mL
                                                                    538 mL
   IVF:
                                                                    210 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                  1,360 mL
   Urine:
                                                                  2,465 mL
                                                                  1,360 mL
   NG:
   Stool:
                                                                    160 mL
   Drains:
   Balance:
                                                                     85 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 322 (322 - 624) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 14.7 L/min
   Physical Examination
   Gen: Awake, trach in place NAD
   Chest: CTA bilaterally
   Abd: soft NT ND
   Cardiovascular: (S1: Normal), (S2: Normal))
   Skin:  warm, dry
   Neurologic: alert, no focal neuro findings
   Labs / Radiology
   8.9 g/dL
   273 K/uL
   260 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   23 mg/dL
   111 mEq/L
   146 mEq/L
   27.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2114-7-25**]  04:18 AM
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
   WBC
   9.3
   10.5
   9.3
   10.3
   8.2
   7.2
   6.5
   Hct
   28.4
   30.0
   28.9
   30.7
   29.2
   27.3
   27.5
   Plt
   187
   251
   248
   293
   306
   287
   273
   Cr
   2.1
   2.0
   1.7
   1.5
   1.3
   1.2
   1.2
   TCO2
   27
   26
   24
   Glucose
   [**Telephone/Fax (3) 1520**]69
   130
   103
   260
   Other labs: PT / PTT / INR:14.7/30.0/1.3, ALT / AST:19/18, Alk Phos / T
   Bili:324/0.5, Amylase / Lipase:23/46, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:166 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A:
   1) Respiratory Failure: Trach in place.
   - will reduce PS and continue to wean as tolerated
   2) Atrial Fibrillation/atrial flutter
   Plan:
   - anti-coagulate as new S1Q3T3 and chron
s is a hypercoagable state so
   some concern for pulmonary thromboembolic disease
   - ultrasound and ECHO
   - diltiazem for rate control
   3) Alk phos:  continues to trend downward...monitor
   4) Acute renal failure: Resolving.  Cr now 1.2.
   5) FEN: Tube feeds
   6)
   ICU Care
   Nutrition:
   Ensure Plus (Full) - [**2114-7-31**] 08:06 AM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2114-7-30**] 03:43 PM
   18 Gauge - [**2114-7-31**] 09:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 minutes

2114-08-01 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2114-7-31**] 10:00 AM- tachycardia, started on diltiazem
 BLOOD CULTURED - At [**2114-7-31**] 05:20 PM
 SPUTUM CULTURE - At [**2114-7-31**] 05:20 PM
 URINE CULTURE - At [**2114-7-31**] 05:20 PM
 FEVER - 101.2
F - [**2114-8-1**] 04:00 AM
   -tachycardia to 140-160s this AM- given ativan, suction, po diltiazem
   not effective. 10mg IV diltiazem x1 with some resolution to low 100s.
   BP stable
   -patient agitated this AM, wants to see her son.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-7-31**] 08:12 PM
   Cefipime - [**2114-7-31**] 08:14 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2114-7-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-7-31**] 08:00 AM
   Enoxaparin (Lovenox) - [**2114-7-31**] 05:34 PM
   Lorazepam (Ativan) - [**2114-7-31**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-1**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 89 (72 - 121) bpm
   BP: 118/55(81) {96/42(58) - 178/127(132)} mmHg
   RR: 21 (18 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
                  Total In:
                                                                  3,452 mL
                                                                    518 mL
   PO:
                                                                    120 mL
                  TF:
                                                                  1,172 mL
                                                                    328 mL
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                    540 mL
   Urine:
                                                                  3,320 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 439 (411 - 439) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: ///28/
   Ve: 10.8 L/min
   Physical Examination
   HEENT: NCAT MMM anicteric
   CV: RRR S1S2
   PULM: rhonchi heard throughout w/scant crackles at bases, some scant
   sputum at trach opening
   ABD: soft nontender slightly distended +bs
   EXT: WWW 1+dp pulses, minimal peripheral edema but mild-moderate
   presacral edema
   NEURO: interactive, conversive, alert
   Labs / Radiology
   273 K/uL
   8.9 g/dL
   177 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.1 mEq/L
   24 mg/dL
   109 mEq/L
   142 mEq/L
   27.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2114-7-26**]  12:35 AM
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
   WBC
   10.5
   9.3
   10.3
   8.2
   7.2
   6.5
   Hct
   30.0
   28.9
   30.7
   29.2
   27.3
   27.5
   Plt
   [**Telephone/Fax (3) 1540**]
   Cr
   2.0
   1.7
   1.5
   1.3
   1.2
   1.2
   1.2
   TCO2
   27
   26
   24
   Glucose
   191
   162
   169
   130
   103
   260
   177
   Other labs: PT / PTT / INR:14.7/30.0/1.3, ALT / AST:19/18, Alk Phos / T
   Bili:324/0.5, Amylase / Lipase:23/46, Differential-Neuts:85.2 %,
   Lymph:9.3 %, Mono:3.9 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:166 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
    # Resp Failure: Patient continues to have a productive cough, and at
   times the vent tubing comes off her trach. Sputum appears yellowish.
   Written for guaifenecin w/codeine. Also febrile overnight. [**Month (only) 51**] not be a
   candidate for extubation at this point.
   -Continue to attempt to wean if tolerated however in setting of PNA may
   not be possible at this time.
   -follow ABGs
   - Albuterol/atrovent nebs prn
   -suction prn
   - Continue Vanc/cefepime, add ciprofloxacin
   -F/u cultures
   #Atrial Flutter/Atrial Fibrilation: Patient with multiple episodes with
   fibrilation/flutter with HR in 150s associated with SOB and agitation.
   The precipitants are pneumonia/pulmonary process versus PE. Not likely
   MI, thyrotoxicosis or medications (reviewed) or fluid overload with
   atrial dilation (echo yesterday). CHADS2 of 1+. Crohn
s exacerbation
   with hypercoagulable state must be considered as well.
   -increase diltiazem to 60mg qid
   -continue Lovenox weight based
   -LENIs negative
   -CTA chest r/o PE today s/p mucomyst 2 doses
    #Fever: Patient with several fevers over last few days. Concern for
   aspiration PNA, although CXRs look stable. Increasing cough and sputum
   production. The catheter tip has had no growth. 2/5 bottles with coag
   negative staph. Sputum grew GNRs.
   -Continue Vanc/cefepime, add ciprofloxacin.
   -f/u cultures
   -f/u temp curve
   -f/u WBC
   -CTA chest r/o PE
   # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Alk phos elevated has continued to trend down since
   admission. Also history of Crohns disease s/p surgeries in the remote
   past. However currently patient is denying abdominal pain and not
   having increased or bloody BMs.
   - trend alk phos- if begins to plateau will re-consult GI for other
   possible causes and treatments
   #. Renal Failure: Creatinine now stable at 1.2. Patient appears to be
   autodiuresing. Will follow UA and culture but likely post-ATN diuresis.
   -UA, ctx
   -urine lytes, osmol
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
    # MS changes: Sedation has been decreased and zydis added with good
   resolution of MS changes. Pt able to communicate, both attempting to
   vocalize and writing on paper. yesterday patient was sitting in chair
   with family at bedside which is a significant improvement. Is slowly
   getting stronger and trying to vocalize questions.
   - continue zydis as needed
    # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale
   # FEN: hypernatremia resolved
   -replete electrolytes as needed
   -follow Na
   # Access: peripheral IV
   # PPx: Lovenox weight based full dose, PPI, single bowel regimen
   # Code:  FULL
   # Dispo: When patient off vent may go to rehab.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-7-31**] 10:02 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-7-31**] 09:29 AM
   20 Gauge - [**2114-7-31**] 11:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-08-01 09:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, she spiked a fever to 101..2 and was pan-cultured. Yesterday
   her LENIs (bilaterally) were negative for DVT. Had transient increase
   in HR to the 140s -- unresponsvie to Ativan and suctioning. Dilt PO was
   given at 5:30AM with 10mg IV Dilt push which decreased her HR to the
   100s. BP OK during this episode.
   Yesterday changed Levaquin to Cefepime for extra coverage given
   persistent fevers and secretions.
   Switched to PS 10/5 briefly this morning.
   I/O 3.4 in / 3.4 out. RN noticed increased UOP over last 24 hr.
   24 Hour Events:
 EKG - At [**2114-7-31**] 10:00 AM
 BLOOD CULTURED - At [**2114-7-31**] 05:20 PM
 SPUTUM CULTURE - At [**2114-7-31**] 05:20 PM
 URINE CULTURE - At [**2114-7-31**] 05:20 PM
 FEVER - 101.2
F - [**2114-8-1**] 04:00 AM
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-31**] 03:56 PM
   Vancomycin - [**2114-7-31**] 08:12 PM
   Cefipime - [**2114-7-31**] 08:14 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2114-7-31**] 05:34 PM
   Lansoprazole (Prevacid) - [**2114-8-1**] 08:16 AM
   Lorazepam (Ativan) - [**2114-8-1**] 08:35 AM
   Diazepam (Valium) - [**2114-8-1**] 08:35 AM
   Other medications:
   Colace
   RSSI nad NPH
   Atrovent MDI
   Prevaci
   Dilt 30 PO QID
   Free water
   Mucomyst
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-1**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100
   HR: 116 (72 - 144) bpm
   BP: 110/53(77) {96/42(58) - 178/127(132)} mmHg
   RR: 25 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
                  Total In:
                                                                  3,452 mL
                                                                    958 mL
   PO:
                                                                    120 mL
                  TF:
                                                                  1,172 mL
                                                                    438 mL
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                  1,100 mL
   Urine:
                                                                  3,320 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 477 (411 - 477) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 14 L/min
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: No(t) PERRL, No(t) Conjunctiva pale, No(t) Sclera
   edema
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   285 K/uL
   201 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   22 mg/dL
   108 mEq/L
   143 mEq/L
   28.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2114-7-26**]  03:36 AM
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
   WBC
   10.5
   9.3
   10.3
   8.2
   7.2
   6.5
   4.6
   Hct
   30.0
   28.9
   30.7
   29.2
   27.3
   27.5
   28.7
   Plt
   [**Telephone/Fax (2) 1540**]
   285
   Cr
   2.0
   1.7
   1.5
   1.3
   1.2
   1.2
   1.2
   1.3
   TCO2
   26
   24
   Glucose
   191
   162
   169
   130
   103
   260
   177
   201
   Other labs: PT / PTT / INR:14.3/26.8/1.2, ALT / AST:14/16, Alk Phos / T
   Bili:249/0.4, Amylase / Lipase:23/46, Differential-Neuts:78.5 %,
   Lymph:8.9 %, Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.2
   g/dL, LDH:175 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Vanc 34.
   Imaging: pCXR: Persistent bilateral effusions.
   Microbiology: Sputum ([**7-30**]) with 2+ GNRs.
   Blood ([**7-29**]) 2 out of 5 blood cultures for CNS (Vanc sensitive).
   Stool ([**7-28**]) negative for C diff.
   Assessment and Plan
   Impression: 60yo woman with Crohn's, ? cognitive dysfunction, new A
   flutter, found down on [**7-10**] now with persistent respiratory failure
   requiring trach c/b persistent fevers and increased secretions.
   1) Respiratory failure: Prolonged wean anticipated; she has had
   intermittent difficult with PS trials. Suspect that she has a
   blossoming aspiration pneumonia especially with GNRs in sputum;
   however, her chest x-ray doesn't appear markedly worse. At this point
   given her persistent fevers and increased secretions it may not be
   unreasonable to consider a chest CT. Continue Cefepime and Vanc;
   consider re-adding fluoroquinolone if she continues to spike. Send
   sputums for culture. This could also help us determine the presence or
   absence of a PE given her new A flutter in the setting of S1Q3T3 on
   recent EKDs.
   2) Caridiac: Negative LENIs. TTE without significant abnormal findings.
   New A flutter of unclear etiology; moderately responsive to Dilt 30 PGT
   QID -- increase to 60 PGT QID and follow. Decision to anticoagulate
   long-term will depend on results of CTA. Currently on Lovenox.
   3) Renal: Increased UOP of unclear etiology -- ? auto-diuresing. Not
   actively diuresing with Lasix. Will aim for I/O even. Check UA for spec
   gravity, consider urine / serum osms to assess for DI although this
   clinically appears unlikely.
   4) Neuro: Mental status is much better after d/c'ing her Propofol;
   continue Zyprexa PRN. Follow clinically.
   5) DM: Continue RSSI and NPH, follow sugars.
   6) F/E/N: Follow / replete 'lytes. Continue TFs.
   7) Crohn's: Stable, follow alk phos.
   8) Access: Peripheral. Code: Full. Dispo: [**Hospital Unit Name 1**].
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-7-31**] 10:02 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-7-31**] 09:29 AM
   20 Gauge - [**2114-7-31**] 11:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 minutes (patient is critically ill)
   Attending Addendum: Fellow note (above) reviewed and I agree with
   assessment and plan.  Continue to have difficultly weaning and has
   afib/flutter with new development of an S1Q3T3 pattern on her EKG.
   Also had a fever spike overnight.  On exam, trach in place, lungs
   clear, abd soft.
   1)       Acute Respiratory Failure with difficult weaning
   2)       A. fib/flutter (currently in sinus)
   3)       Mental status changes
 improved
   Plan: Chest CT scan to evaluate for PE and (if not present) can
   evaluate lung parenchemya.  Continue to wean as tolerated.
   Anti-coagulation will depend on results of CT scan.
   [**First Name4 (NamePattern1) 31**] [**Last Name (NamePattern1) 1526**]

2114-08-02 07:07:00 Physician Resident Progress Note
Chief Complaint: 60 year old female with PMHx of DM2 and Crohn's
   disease who was transferred from OSH after 10 day admission after being
   found down with pancreatitis, dka, respiratory failure, rhabdomylsis
   and acute renal failure requiring intermittent dialysis. Now with
   improved mental status with trach still on ventilator. Now with
   persistent fevers in the setting of likely ventilator associated
   pneumonia.
   24 Hour Events:
 FEVER - 101.9
F - [**2114-8-1**] 12:00 PM
   Patient was persistently febrile yesterday. added on ciprofloxacin for
   double coverage for possible pseudomonas infection.  Patient had CTA
   yesterday which demonstrated no evidence of PE, bilateral pleural
   effusions.  Holding lovenox today (morning) for possible thoracentesis.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-31**] 03:56 PM
   Vancomycin - [**2114-7-31**] 08:12 PM
   Cefipime - [**2114-8-1**] 08:00 PM
   Ciprofloxacin - [**2114-8-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2114-8-1**] 08:16 AM
   Diltiazem - [**2114-8-1**] 09:14 AM
   Enoxaparin (Lovenox) - [**2114-8-1**] 06:23 PM
   Lorazepam (Ativan) - [**2114-8-2**] 03:45 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient states that her abdomen feels gassy
   Flowsheet Data as of  [**2114-8-2**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.9
C (100.3
   HR: 78 (64 - 138) bpm
   BP: 117/49(65) {90/41(55) - 161/83(88)} mmHg
   RR: 25 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
                  Total In:
                                                                  3,300 mL
                                                                    642 mL
   PO:
                  TF:
                                                                  1,200 mL
                                                                    342 mL
   IVF:
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    585 mL
   Urine:
                                                                  3,000 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    300 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 402 (293 - 477) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 6.7 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, no murmur
   appreciated, irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   8.5 g/dL
   205 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.0 mEq/L
   22 mg/dL
   103 mEq/L
   143 mEq/L
   26.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
   WBC
   9.3
   10.3
   8.2
   7.2
   6.5
   4.6
   4.2
   Hct
   28.9
   30.7
   29.2
   27.3
   27.5
   28.7
   26.5
   Plt
   [**Telephone/Fax (3) **]87
   273
   285
   283
   Cr
   1.7
   1.5
   1.3
   1.2
   1.2
   1.2
   1.3
   1.3
   TCO2
   26
   24
   Glucose
   162
   169
   130
   103
   [**Telephone/Fax (2) 1559**]05
   Other labs: PT / PTT / INR:13.9/26.8/1.2, ALT / AST:14/9, Alk Phos / T
   Bili:188/0.3, Amylase / Lipase:32/46, Differential-Neuts:78.5 %,
   Lymph:8.9 %, Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure/pneumonia: Patient continues to have a productive cough,
   and at times the vent tubing comes off her trach. Sputum appears
   yellowish. Written for guaifenecin w/codeine. Also persistently. likely
   not yet a candidate to wean off the vent
   -Continue to attempt to wean today lower to [**8-26**]
   - spontaneous breathing trial today with trach mask
   - goal to get off ventilator hopefully tomorrow
   - still with tan, thick secretions
   - added ciprofloxacin to vanc/cefepime yesterday as patient
   persistently febrile, gram negative rods in the sputum concern for
   possible ventilator associated pneumonia (possible pseudomonas)
   - CT chest yesterday with bilateral pleural efffusions without evidence
   of PE
   - Albuterol/atrovent nebs prn
   -suction prn
   -[**7-30**] sputum cultures > 25 PMNs, 2+ GNR, culture shows oropharyngeal
   flora, sparse gram negative rods
    #Atrial Flutter/Atrial Fibrilation: Patient with multiple episodes
   with fibrilation/flutter with HR in 150s associated with SOB and
   agitation. Initially concern for possible PE, however given negative CT
   this is really no longer a concern. Likelyprecipitants are
   pneumonia/pulmonary process. Not likely MI, thyrotoxicosis or
   medications (reviewed) or fluid overload with atrial dilation (echo
   yesterday). CHADS2 of 1+. Crohn
s exacerbation with hypercoagulable
   state must be considered as well.
   -overnight patient was in normal sinus and then converted to afib
   -diltiazem currently 60mg [**Last Name (LF) **], [**First Name3 (LF) **] increase to 90 mg [**First Name3 (LF) **] with holding
   parameters for persistent breakthrough tachycardi
   - given that intermittent afib will start ASA 325 mg PO daily, can d/c
   lovenox as no active PE, does not meet criteria for anti-coagulation
   with coumadin given chads score
   -LENIs negative, CTA chest without evidence of PE
   #Fever: Patient with several fevers over last few days. Concern for
   aspiration PNA, although CXRs look stable. Increasing cough and sputum
   production. The catheter tip has had no growth but there was initially
   2/5 bottles with coag negative staph. Sputum grew GNRs.
   -Continue Vanc/cefepime/ciprofloxacin.
   -f/u cultures
   -f/u temp curve
   -f/u WBC
   -CTA negative for PE
    # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Alk phos elevated has continued to trend down since
   admission. Also history of Crohns disease s/p surgeries in the remote
   past. However currently patient is denying abdominal pain and not
   having increased or bloody BMs.
   - trend alk phos- if begins to plateau will re-consult GI for other
   possible causes and treatments
    #. Renal Failure: Creatinine now 1.3. Patient appears to be
   autodiuresing. Will follow UA and culture but likely post-ATN diuresis.
   -UA - small blood, trace protein, 71 RBCs, few bacteria, few yeast
   -urine osm 296
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Sedation has been decreased and zydis added with good
   resolution of MS changes. Pt able to communicate, both attempting to
   vocalize and writing on paper. yesterday patient was sitting in chair
   with family at bedside which is a significant improvement. Is slowly
   getting stronger and trying to vocalize questions.
   - continue zydis as needed
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale, on NPH as well, increased NPH
   to [**5-28**] from [**3-26**] with increased
    # FEN: hypernatremia resolved
   -replete electrolytes as needed
   -follow Na
    # Access: peripheral IV
    # PPx: will d/c lovenox, start heparin 5000 subQ TID, will hold today
   in case of thoracentesis, PPI, bowel regimen
    # Code:  FULL
    # Dispo: When patient off vent may go to rehab.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-1**] 03:01 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-7-31**] 09:29 AM
   20 Gauge - [**2114-7-31**] 11:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-08-02 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CTA was negative but bilateral pleural effusions
   Lovenox held for possible thoracentesis
   24 Hour Events:
 FEVER - 101.9
F - [**2114-8-1**] 12:00 PM
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-31**] 03:56 PM
   Cefipime - [**2114-8-1**] 08:00 PM
   Ciprofloxacin - [**2114-8-2**] 04:00 AM
   Vancomycin - [**2114-8-2**] 07:57 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2114-8-1**] 06:23 PM
   Morphine Sulfate - [**2114-8-2**] 07:00 AM
   Lansoprazole (Prevacid) - [**2114-8-2**] 07:44 AM
   Lorazepam (Ativan) - [**2114-8-2**] 09:17 AM
   Other medications:
   Med List reviewed - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: trach in place
   Flowsheet Data as of  [**2114-8-2**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.1
   HR: 116 (64 - 116) bpm
   BP: 151/36(66) {90/36(55) - 151/83(88)} mmHg
   RR: 24 (19 - 32) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,300 mL
                                                                  1,539 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    537 mL
   IVF:
                                                                  1,100 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                  1,625 mL
   Urine:
                                                                  3,000 mL
                                                                  1,625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    300 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (293 - 418) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 11.2 L/min
   Physical Examination
   Gen: Awake, alert NAD
   Head, Ears, Nose, Throat: Normocephalic, Trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: CTA bilaterally
   Skin:  warm dry
   Neurologic: alert, responsive
   Labs / Radiology
   8.5 g/dL
   283 K/uL
   205 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.0 mEq/L
   22 mg/dL
   103 mEq/L
   143 mEq/L
   26.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
   WBC
   9.3
   10.3
   8.2
   7.2
   6.5
   4.6
   4.2
   Hct
   28.9
   30.7
   29.2
   27.3
   27.5
   28.7
   26.5
   Plt
   [**Telephone/Fax (3) **]87
   273
   285
   283
   Cr
   1.7
   1.5
   1.3
   1.2
   1.2
   1.2
   1.3
   1.3
   TCO2
   26
   24
   Glucose
   162
   169
   130
   103
   [**Telephone/Fax (2) 1559**]05
   Other labs: PT / PTT / INR:13.9/26.8/1.2, ALT / AST:14/9, Alk Phos / T
   Bili:188/0.3, Amylase / Lipase:32/46, Differential-Neuts:78.5 %,
   Lymph:8.9 %, Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure:
   - Continue to treat for VAP (vanc/cefepime/cipro)
   - Will decrease PS and potentially try trach shield today
   - Will perform pleurocentesis in order to optimize pulmonary status and
   rule out any underlying infection as cause
   - continue albuterol/atrovent nebs
   2) Pneumonia
   - having persistent fevers so will perform a pleurocentesis today
   -
   3) A. fib/flutter: monitor for recurrence.  If the a. fib/flutter
   recurs, can consider anti-coagulation but would otherwise hold off as
   the arrythmias may be situational and related to the ICU
   3)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-1**] 03:01 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-7-31**] 09:29 AM
   20 Gauge - [**2114-7-31**] 11:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 30 minutes (patient is critically ill)

2114-08-03 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2114-8-2**] 01:17 PM
 BLOOD CULTURED - At [**2114-8-2**] 06:15 PM
 URINE CULTURE - At [**2114-8-2**] 06:15 PM
 FEVER - 102.6
F - [**2114-8-2**] 04:00 PM
   -agitated overnight, increased ativan dose.
   -persistent SBTs yesterday as vent came off
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-31**] 03:56 PM
   Vancomycin - [**2114-8-2**] 07:57 AM
   Cefipime - [**2114-8-2**] 08:11 PM
   Ciprofloxacin - [**2114-8-3**] 04:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2114-8-2**] 07:00 AM
   Lansoprazole (Prevacid) - [**2114-8-2**] 07:44 AM
   Lorazepam (Ativan) - [**2114-8-3**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-3**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.3
C (101
   HR: 88 (66 - 116) bpm
   BP: 85/42(50) {80/36(46) - 151/96(99)} mmHg
   RR: 25 (19 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,589 mL
                                                                    743 mL
   PO:
             TF:
                                                                    886 mL
                                                                    319 mL
   IVF:
                                                                  1,013 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    345 mL
   Urine:
                                                                  2,535 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
                                                                    500 mL
   Balance:
                                                                   -446 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (303 - 418) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   8.5 g/dL
   205 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.0 mEq/L
   22 mg/dL
   103 mEq/L
   143 mEq/L
   26.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2114-7-27**]  04:12 AM
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
   WBC
   9.3
   10.3
   8.2
   7.2
   6.5
   4.6
   4.2
   Hct
   28.9
   30.7
   29.2
   27.3
   27.5
   28.7
   26.5
   Plt
   [**Telephone/Fax (3) **]87
   273
   285
   283
   Cr
   1.7
   1.5
   1.3
   1.2
   1.2
   1.2
   1.3
   1.3
   TCO2
   26
   24
   Glucose
   162
   169
   130
   103
   [**Telephone/Fax (2) 1559**]05
   Other labs: PT / PTT / INR:13.9/26.8/1.2, ALT / AST:14/9, Alk Phos / T
   Bili:188/0.3, Amylase / Lipase:32/46, Differential-Neuts:78.5 %,
   Lymph:8.9 %, Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure/pneumonia: Patient continues to have a productive cough,
   and at times the vent tubing comes off her trach. Sputum appears
   yellowish. Written for guaifenecin w/codeine. Could do with trial of
   trach mask and continued weaning.
   -potentially off ventilator today
   - suction as needed
   -repeate CXR
   - continue cipro/vanc/cefepime  as patient persistently febrile, GNR in
   the sputum concern for VAP (? Pseudomonas)
   - pleural tap yesterday
   - Albuterol/atrovent nebs prn
   -[**7-30**] sputum cultures > 25 PMNs, 2+ GNR, culture shows oropharyngeal
   flora, sparse gram negative rods
    #Atrial Flutter/Atrial Fibrilation: Patient with multiple episodes
   with fibrilation/flutter with HR in 150s associated with SOB and
   agitation. Initially concern for possible PE, however given negative CT
   this is really no longer a concern. Likelyprecipitants are
   pneumonia/pulmonary process. Not likely MI, thyrotoxicosis or
   medications (reviewed) or fluid overload with atrial dilation (echo
   yesterday). CHADS2 of 1+. Crohn
s exacerbation with hypercoagulable
   state must be considered as well.
   -overnight patient was in normal sinus and then converted to afib
   -diltiazem currently 60mg [**Last Name (LF) **], [**First Name3 (LF) **] increase to 90 mg [**First Name3 (LF) **] with holding
   parameters for persistent breakthrough tachycardi
   - given that intermittent afib will start ASA 325 mg PO daily, can d/c
   lovenox as no active PE, does not meet criteria for anti-coagulation
   with coumadin given chads score
   -LENIs negative, CTA chest without evidence of PE
   #Fever: Patient with several fevers over last few days. Concern for
   aspiration PNA, although CXRs look stable. Increasing cough and sputum
   production. The catheter tip has had no growth but there was initially
   2/5 bottles with coag negative staph. Sputum grew GNRs.
   -Continue Vanc/cefepime/ciprofloxacin.
   -f/u cultures
   -f/u temp curve
   -f/u WBC
   -CTA negative for PE
    # Elevated Alk Phos:  Most likely due to ischemic biliary ducts after
   being down. Alk phos elevated has continued to trend down since
   admission. Also history of Crohns disease s/p surgeries in the remote
   past. However currently patient is denying abdominal pain and not
   having increased or bloody BMs.
   - trend alk phos- if begins to plateau will re-consult GI for other
   possible causes and treatments
    #. Renal Failure: Creatinine now 1.3. Patient appears to be
   autodiuresing. Will follow UA and culture but likely post-ATN diuresis.
   -UA - small blood, trace protein, 71 RBCs, few bacteria, few yeast
   -urine osm 296
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Sedation has been decreased and zydis added with good
   resolution of MS changes. Pt able to communicate, both attempting to
   vocalize and writing on paper. yesterday patient was sitting in chair
   with family at bedside which is a significant improvement. Is slowly
   getting stronger and trying to vocalize questions.
   - continue zydis as needed
   # Diabetes: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   - continue regular insulin sliding scale, on NPH as well, increased NPH
   to [**5-28**] from [**3-26**] with increased
    # FEN: hypernatremia resolved
   -replete electrolytes as needed
   -follow Na
    # Access: peripheral IV
    # PPx: will d/c lovenox, start heparin 5000 subQ TID, will hold today
   in case of thoracentesis, PPI, bowel regimen
    # Code:  FULL
    # Dispo: When patient off vent may go to rehab.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-2**] 09:18 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-08-03 11:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Yesterday, performed a thoracentesis on the right side of the lung and
   subsequently patient was weaned off the ventilator.
   24 Hour Events:
 THORACENTESIS - At [**2114-8-2**] 01:17 PM
 BLOOD CULTURED - At [**2114-8-2**] 06:15 PM
 URINE CULTURE - At [**2114-8-2**] 06:15 PM
 FEVER - 102.6
F - [**2114-8-2**] 04:00 PM
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-7-31**] 03:56 PM
   Cefipime - [**2114-8-2**] 08:11 PM
   Ciprofloxacin - [**2114-8-3**] 04:30 AM
   Vancomycin - [**2114-8-3**] 07:36 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2114-8-3**] 04:29 AM
   Lansoprazole (Prevacid) - [**2114-8-3**] 07:36 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-3**] 07:36 AM
   Other medications:
   Med list reviewed - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-3**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.8
C (100
   HR: 79 (66 - 112) bpm
   BP: 105/30(48) {80/30(46) - 149/96(99)} mmHg
   RR: 11 (11 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,589 mL
                                                                  1,388 mL
   PO:
             TF:
                                                                    886 mL
                                                                    577 mL
   IVF:
                                                                  1,013 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    865 mL
   Urine:
                                                                  2,535 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
                                                                    500 mL
   Balance:
                                                                   -446 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (303 - 379) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 9 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   259 K/uL
   189 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.5 mEq/L
   21 mg/dL
   108 mEq/L
   144 mEq/L
   25.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2114-7-27**]  02:18 PM
                             [**2114-7-28**]  01:30 AM
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
   WBC
   10.3
   8.2
   7.2
   6.5
   4.6
   4.2
   4.7
   Hct
   30.7
   29.2
   27.3
   27.5
   28.7
   26.5
   25.7
   Plt
   293
   306
   287
   273
   285
   283
   259
   Cr
   1.5
   1.3
   1.2
   1.2
   1.2
   1.3
   1.3
   1.2
   TCO2
   26
   24
   Glucose
   169
   130
   103
   [**Telephone/Fax (3) **]
   205
   189
   Other labs: PT / PTT / INR:13.4/26.8/1.2, ALT / AST:14/9, Alk Phos / T
   Bili:188/0.3, Amylase / Lipase:32/46, Differential-Neuts:78.5 %,
   Lymph:8.9 %, Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A:
   1) Acute Respiratory Failure:
   - s/p thoracentesis and now off the ventilator and on the trach mask ->
   continue trach mask today
   2) Persistent Fevers: still on cipro/vanc/cefepime for presumed
   pneumonia
   - ID consult
   - Will consult cardiology for TEE
   3) A. fib:
   - continue diltiazem and aspirin
   4) Chrohn
s Disease: will discuss with GI
   5) Mental status changes
 improved
   6) DM: sliding scale insulin
   7) FEN: hyponatremia resolved
   Addendum: Noted that patient has Extended Spectrum Beta Lactamase from
   sputum which may explain reason for persistent fevers.  Will change
   antibiotics to cover and hold off on the TEE for now.  If continues to
   spike, can re-address.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-3**] 08:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2114-08-04 07:18:00 Physician Resident Progress Note
Chief Complaint: DKA, found down after 10 hours; prolonged
   intra-hospital course.
   24 Hour Events:
 FEVER - 101.6
F - [**2114-8-3**] 08:00 PM
   -Sputum + for enterobacter. Started on meropenem
   -ID, GI consults for fever (now explained by above).
   -continues to take off trach mask overnight, given ativan, zyprexa but
   is still agitated; written for 2 pt restraints
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2114-8-2**] 08:11 PM
   Ciprofloxacin - [**2114-8-3**] 04:30 AM
   Vancomycin - [**2114-8-3**] 07:36 AM
   Meropenem - [**2114-8-4**] 12:06 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2114-8-3**] 07:36 AM
   Heparin Sodium (Prophylaxis) - [**2114-8-3**] 07:52 PM
   Haloperidol (Haldol) - [**2114-8-3**] 11:26 PM
   Lorazepam (Ativan) - [**2114-8-4**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-4**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.8
C (98.3
   HR: 84 (64 - 107) bpm
   BP: 128/45(67) {87/30(48) - 159/85(92)} mmHg
   RR: 26 (11 - 33) insp/[**Year (4 digits) 83**]
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,461 mL
                                                                    886 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    363 mL
   IVF:
                                                                    461 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    760 mL
   Urine:
                                                                  1,945 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 265 (265 - 385) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.49/40/73.[**Numeric Identifier 218**]/27/6
   Ve: 6.9 L/[**Numeric Identifier 83**]
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious;
   respiratory distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : Expiratory bilateraly, Rhonchorous:
   Expiratory bilateraly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   263 K/uL
   8.5 g/dL
   205 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.1 mEq/L
   20 mg/dL
   107 mEq/L
   143 mEq/L
   25.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2114-7-28**]  03:12 AM
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
   WBC
   10.3
   8.2
   7.2
   6.5
   4.6
   4.2
   4.7
   4.7
   Hct
   30.7
   29.2
   27.3
   27.5
   28.7
   26.5
   25.7
   25.6
   Plt
   293
   306
   287
   273
   285
   283
   259
   263
   Cr
   1.5
   1.3
   1.2
   1.2
   1.2
   1.3
   1.3
   1.2
   1.1
   TCO2
   31
   Glucose
   169
   130
   103
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 1603**]
   Other labs: PT / PTT / INR:13.8/29.6/1.2, ALT / AST:14/9, Alk Phos / T
   Bili:188/0.3, Amylase / Lipase:32/46, Differential-Neuts:78.5 %,
   Lymph:8.9 %, Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure: VAP vs. CHF exacerbation. No known h/o CHF, but pt has
   received compious ammount of fluids in the ICU. Also pt having thick
   secretions that are not helping her respiratory status and she gets
   agitated and combative with the vent. She was put on trach mast and
   became agitated, requiring to go back on the mechanical support.
   -Continue Vanc/meropenem day [**12-31**]
   -suction as needed
   -follow CXR
   -Albuterol/atrovent nebs prn
   -Morphine PRN
   -IV lasix with target negative balance of 500 today
   -Increase sedation for now with propofol
    #PAF: Patient with multiple episodes with fibrilation/flutter with HR
   in 150s associated with SOB and agitation. Initially concern for
   possible PE, however given negative CT this is really no longer a
   concern. Likelyprecipitant isVAP. CHADS2 of 1+. Currently on full dose
   ASA.
   -overnight patient was in normal sinus
   -diltiazem currently 60mg qid continue to on this dose given patients
   BP is low-normal
   -given that intermittent afib on ASA 325 mg PO daily
   #Fever: Patient with several fevers over last few days. Most likely
   VAP, but may be active [**Last Name (un) 1420**]
s and must rule out non-infectious causes
   as well. Will continue broad spectrum antibiotics for now. PICC was
   retreived, but no growth.
   -Continue Vanc/meropenem for now.
   -f/u cultures
   -f/u temp curve
   -f/u WBC
    # Elevated Alk Phos/Crohn
s disease:  Most likely due to ischemic
   biliary ducts after being down. Alk phos elevated has continued to
   trend down since admission. Also history of Crohns disease s/p
   surgeries in the remote past. However currently patient is denying
   abdominal pain and not having increased or bloody BMs.
   -          trend alk phos
   -          GI consult re: Crohns disease
    #. Renal Failure: Creatinine stable. Patient appears to be
   autodiuresing. Will follow UA and culture but likely post-ATN diuresis.
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Significantly improved. Continue to monitor.
   - continue zydis as needed (fyi olanzapine can cause DKA in diabetics)
   # Diabetes/DKA: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   -          continue regular insulin sliding scale
   -          NPH to [**5-28**]
    # FEN: hypernatremia resolved
   -S&S recs
   -replete electrolytes as needed
   -IVF as needed
    # Access: peripheral IV
    # PPx: heparin, ASA, PPI, bowel regimen
    # Code:  FULL
    # Dispo: may be c/o to floor once stable on trach while awaiting rehab
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-3**] 08:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-3**] 04:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I reviewed the history and relevant lab data on the patient and
   examined her.  I was physically present with the MICU team for the
   major portions of the services provided. I agree with the note above,
   including the assessment and plan.  I would add and emphasize the
   following:
   With increasing secretions and fever to 101.6F the pt was changed to
   Meopenem to Rx her ESBL Enterbacter.  She tolerated trache mask for a
   number of hrs yesterday but this AM became agitated and in resp
   distress shortly after being put back on trache collar.  Secretions in
   ETT suggestive of pulm edema, pt coughing and uncomfortable.  Hence pt
   put back on vent, started on IV Nitro for htn and sedated and given
   Morphine, all with nice improvement in her comfort.
   On exam this AM: pt in resp distress, coughing I/0 + 500 cc over 24 hr
   Lungs show rhonchi.  Cor
 tachy  Ext- no edema
   Lab: K=3.1  CXR suggest LLL pna;  prior CT shows RLL and LLL pna
s and
   effusions
   Problems:
   1.       Resp failure with persistent vent dependence, in part due to
   agitation and episodic apnea, in part due to enterobacter pna, in part
   due to possible flash pulm edema from likely diastolic chf, and in part
   due to pl effusions from CHF
   2.       P Atrial fib  on aspirin
   3.       CHFwith bilateral transudative effusions
   4.       DM, s/p DKA
   5.       CN Staph line infection, on Vanco
   Plan:
   1.       For now rest for 24 hr on vent with increased PSV and more
   sedation, morphine as needed, and rx with Lasix and rx  for htn and
   tachycardia
   2.       Continue abx above
   3.       Reassess CXR in AM
   4.       KCL repletion
   Rest of plan as above.
   Patient Critically ill.  Total time spent = 35 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], [**MD Number(1) 1623**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2114-8-4**] 19:21 ------

2114-08-05 07:33:00 Physician Resident Progress Note
Chief Complaint: abnormal LFTs, unable to wean
   24 Hour Events:
 EKG - At [**2114-8-4**] 11:00 AM
   Bad morning: became agitated, tachypneic, coughing, brochospasm, Afib
   and HTN to 210; flashed pulmonary edema. Received ativan, morphine,
   nitro. Increased frequency of morphine, did not respond; increase in
   propofol. Respondend. Switched back to AC.
   .
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2114-8-2**] 08:11 PM
   Ciprofloxacin - [**2114-8-3**] 04:30 AM
   Vancomycin - [**2114-8-4**] 08:22 AM
   Meropenem - [**2114-8-5**] 12:08 AM
   Infusions:
   Propofol - 10 mcg/Kg/[**Year (4 digits) 83**]
   Other ICU medications:
   Furosemide (Lasix) - [**2114-8-4**] 11:00 AM
   Lorazepam (Ativan) - [**2114-8-4**] 01:27 PM
   Morphine Sulfate - [**2114-8-4**] 01:28 PM
   Heparin Sodium (Prophylaxis) - [**2114-8-4**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-5**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 78 (70 - 134) bpm
   BP: 99/39(53) {76/31(43) - 211/102(123)} mmHg
   RR: 27 (21 - 44) insp/[**Year (4 digits) 83**]
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,393 mL
                                                                  2,087 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    375 mL
   IVF:
                                                                    692 mL
                                                                  1,212 mL
   Blood products:
   Total out:
                                                                  3,860 mL
                                                                    420 mL
   Urine:
                                                                  3,860 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,467 mL
                                                                  1,667 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 348 (348 - 446) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 8.4 L/[**Year (4 digits) 83**]
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy, no JVD visible
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   219 K/uL
   8.3 g/dL
   182 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.1 mEq/L
   33 mg/dL
   110 mEq/L
   143 mEq/L
   24.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2114-7-29**]  05:18 AM
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
   WBC
   8.2
   7.2
   6.5
   4.6
   4.2
   4.7
   4.7
   9.7
   Hct
   29.2
   27.3
   27.5
   28.7
   26.5
   25.7
   25.6
   24.8
   Plt
   [**Telephone/Fax (3) 1647**]85
   [**Telephone/Fax (2) 1648**]19
   Cr
   1.3
   1.2
   1.2
   1.2
   1.3
   1.3
   1.2
   1.1
   1.4
   TCO2
   31
   Glucose
   130
   103
   260
   177
   [**Telephone/Fax (2) 1649**]05
   182
   Other labs: PT / PTT / INR:15.0/32.0/1.3, ALT / AST:14/9, Alk Phos / T
   Bili:188/0.3, Amylase / Lipase:32/46, Differential-Neuts:78.5 %,
   Lymph:8.9 %, Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure: VAP vs. CHF exacerbation with pulmonary edema and AFl.
   Pt has received copious amount of fluids in the ICU. However, we have
   been diurising her slowly. Her CXR is slowly worsening. Right now on
   AC.
   -Treat baseline anxiety (see below)
   -Continue Vanc/meropenem day [**1-29**]
   -suction as needed
   -follow CXR
   -Sputum culture and gram stain
   -Albuterol/atrovent nebs prn
   -Morphine PRN
   -IV lasix with target negative balance of 500 today
   #Agitation: Patient has not seen her family in long time and has had a
   very complicated ICU course. She has responded to propofol, but now too
   long and it is not a good alternative. I think we need to address the
   baseline problem and do a good long-term regimen for that.
   -Arrange for her family to come and see her
   -Talk to her frequently about her progression
   -Improve her breathing
   -Morphine PRN
   -Olanzapine switch to standing
   - Psych curbside
   - Wean down propofol
   - Switch her trach to a smaller to be able to put a valve and help her
   talking
   #Flash pulmonary edema: etiology unknown, but may be CHF (despite
   normal Echo 1 week ago) in the setting of AFib. However, etiology
   remains unknown. For now, maximize medical management.
   -Control BP
   -Improve O2 delivery
   -Rate control her with dilt
   -Treat baseline pulmonary problem with antibiotics
    #PAF: Patient with multiple episodes with fibrilation/flutter with HR
   in 150s associated with SOB and agitation. Initially concern for
   possible PE, however given negative CT this is really no longer a
   concern. Likelyprecipitant isVAP. CHADS2 of 1+. Currently on full dose
   ASA.
   -overnight patient was in normal sinus
   -diltiazem currently 60mg qid continue to on this dose given patients
   BP is low-normal
   -given that intermittent afib on ASA 325 mg PO daily
   #Fever: Patient with several fevers over last few days. Most likely
   VAP, but may be active [**Last Name (un) 1420**]
s and must rule out non-infectious causes
   as well. Will continue broad spectrum antibiotics for now. PICC was
   retreived, but no growth.
   -Continue Vanc/meropenem for now.
   -f/u cultures
   -f/u temp curve
   -f/u WBC
    # Elevated Alk Phos/Crohn
s disease:  Most likely due to ischemic
   biliary ducts after being down. Alk phos elevated has continued to
   trend down since admission. Also history of Crohns disease s/p
   surgeries in the remote past. However currently patient is denying
   abdominal pain and not having increased or bloody BMs.
   -          trend alk phos
   -          GI consult re: Crohns disease
    #. Renal Failure: Creatinine up from before. [**Month (only) 51**] be in the setting
   after contrast for PE-CT.
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Significantly improved. Continue to monitor.
   - continue zydis as needed (fyi olanzapine can cause DKA in diabetics)
   # Diabetes/DKA: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   -          continue regular insulin sliding scale
   -          NPH to [**5-28**]
    # FEN: [**Month (only) 51**] need to address long-term diet on her.
   -S&S recs
   -replete electrolytes as needed
   -IVF as needed
    # Access: peripheral IV
    # PPx: heparin, ASA, PPI, bowel regimen
    # Code:  FULL
    # Dispo: may be c/o to floor once stable on trach while awaiting rehab
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-4**] 10:23 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-4**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have reviewed the history and relevant labs on the patient and also
   examined her. I was present with MICU team for the key portions of the
   services provided and agree with the note above, including its
   assessment and plans. I would add the following:
   Over the past 24hr she has been sedated and put back on A/C on the
   vent, but had hypotension with propofol.  This AM she is still not as
   comfortable as previously last week and is tearful.
   On exam: Tm=100.7, BP=99/39, Sat=97% on vent.   Lungs show LLL
   bronchial breath sounds.  Alert and writing.  Less rhonchorous and
   coughing less than yesterday.
   Lab:  CXR shows bilat LL infiltrates, with more opacity in the LLL than
   even yesterday.  However WBC normal
   Problems:
   1.       Resp Failure due to pneumonia (LLL and ? RLL) and possibly
   residual pulm edema from yesterday
   2.       Transudative pl effusions
   3.       Flash pulm edema
   4.       Agitation and anxiety
   5.       LLL pneumonia
   6.       RLL infiltrate
pneumonia vs residual CHF
   Plan:
   1.       Change vent to PSV
   2.       Make I/O neg by 1L
   3.       Recheck sputum C&S
   4.       Restart Zyprexa and consider RTC benzo
   5.       Pysch consult to advise on #5
   6.       Follow CXR and wait for improvement before restarting trach
   collar trials again
   Patient critically ill.  Total time spent = 45 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], [**MD Number(1) 1622**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2114-8-5**] 16:41 ------

2114-08-06 06:46:00 Physician Resident Progress Note
Chief Complaint: Found down; DKA, VAP, agitation/anxiety
   24 Hour Events:
 FEVER - 103.7
F - [**2114-8-5**] 08:00 PM
   - Pateint still on vent
   - Vent settings: 20/5 FiO2 40 Vt ~300
   - negative 1.4 L yesterday (given lasix)
   - Sputum culture ordered
   - Change propofol to zyprexa standing, iv ativan standing
   - now on day 9 of trach, usually wait until day 14 to change trach to
   smaller size
   - was up + 800 cc at 10 pm, so ordered for 20 IV lasix with goal I/Os
   of negative -1 L
   - changed dose of diltiazem to 90 QID with holding parameters as still
   persistently tachycardic and bp elevated, suspect that this may be an
   element of anxiety
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-5**] 08:25 AM
   Meropenem - [**2114-8-6**] 12:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-5**] 08:25 AM
   Lorazepam (Ativan) - [**2114-8-6**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-6**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 37.7
C (99.8
   HR: 81 (73 - 118) bpm
   BP: 107/36(54) {81/36(49) - 179/103(107)} mmHg
   RR: 28 (16 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,264 mL
                                                                    799 mL
   PO:
             TF:
                                                                    724 mL
                                                                    333 mL
   IVF:
                                                                  1,790 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  1,230 mL
   Urine:
                                                                  2,120 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,144 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 369 (365 - 552) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No visible
   JVD.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : Bilateraly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, Normal
   intercostal reflexes
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   244 K/uL
   9.8 g/dL
   273 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.6 mEq/L
   22 mg/dL
   107 mEq/L
   141 mEq/L
   29.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
   WBC
   7.2
   6.5
   4.6
   4.2
   4.7
   4.7
   9.7
   9.9
   Hct
   27.3
   27.5
   28.7
   26.5
   25.7
   25.6
   24.8
   29.6
   Plt
   287
   273
   285
   [**Telephone/Fax (3) **]
   219
   244
   Cr
   1.2
   1.2
   1.2
   1.3
   1.3
   1.2
   1.1
   1.4
   1.0
   TropT
   0.09
   TCO2
   31
   Glucose
   103
   260
   177
   [**Telephone/Fax (2) 1678**]
   Other labs: PT / PTT / INR:15.0/32.0/1.3, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:14/9, Alk Phos / T Bili:188/0.3,
   Amylase / Lipase:32/46, Differential-Neuts:78.5 %, Lymph:8.9 %,
   Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0 g/dL,
   LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
   # Resp Failure: VAP vs. CHF exacerbation with pulmonary edema and AFl.
   Pt has received copious amount of fluids in the ICU. However, we have
   been diurising her slowly. Her CXR is slowly worsening. Right now on
   AC.
   -Treat baseline anxiety (see below)
   -Continue Vanc/meropenem day [**1-29**]
   -suction as needed
   -follow CXR
   -Sputum culture and gram stain
   -Albuterol/atrovent nebs prn
   -Morphine PRN
   -IV lasix with target negative balance of 500 today
   #Agitation: Patient has not seen her family in long time and has had a
   very complicated ICU course. She has responded to propofol, but now too
   long and it is not a good alternative. I think we need to address the
   baseline problem and do a good long-term regimen for that.
   -Arrange for her family to come and see her
   -Talk to her frequently about her progression
   -Improve her breathing
   -Morphine PRN
   -Olanzapine switch to standing
   - Psych curbside
   - Wean down propofol
   - Switch her trach to a smaller to be able to put a valve and help her
   talking
   #Flash pulmonary edema: etiology unknown, but may be CHF (despite
   normal Echo 1 week ago) in the setting of AFib. However, etiology
   remains unknown. For now, maximize medical management.
   -Control BP
   -Improve O2 delivery
   -Rate control her with dilt
   -Treat baseline pulmonary problem with antibiotics
    #PAF: Patient with multiple episodes with fibrilation/flutter with HR
   in 150s associated with SOB and agitation. Initially concern for
   possible PE, however given negative CT this is really no longer a
   concern. Likelyprecipitant isVAP. CHADS2 of 1+. Currently on full dose
   ASA.
   -overnight patient was in normal sinus
   -diltiazem currently 60mg qid continue to on this dose given patients
   BP is low-normal
   -given that intermittent afib on ASA 325 mg PO daily
   #Fever: Patient with several fevers over last few days. Most likely
   VAP, but may be active [**Last Name (un) 1420**]
s and must rule out non-infectious causes
   as well. Will continue broad spectrum antibiotics for now. PICC was
   retreived, but no growth.
   -Continue Vanc/meropenem for now.
   -f/u cultures
   -f/u temp curve
   -f/u WBC
    # Elevated Alk Phos/Crohn
s disease:  Most likely due to ischemic
   biliary ducts after being down. Alk phos elevated has continued to
   trend down since admission. Also history of Crohns disease s/p
   surgeries in the remote past. However currently patient is denying
   abdominal pain and not having increased or bloody BMs.
   -          trend alk phos
   -          GI consult re: Crohns disease
    #. Renal Failure: Creatinine up from before. [**Month (only) 51**] be in the setting
   after contrast for PE-CT.
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # MS changes: Significantly improved. Continue to monitor.
   - continue zydis as needed (fyi olanzapine can cause DKA in diabetics)
   # Diabetes/DKA: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin.
   -          continue regular insulin sliding scale
   -          NPH to [**5-28**]
    # FEN: [**Month (only) 51**] need to address long-term diet on her.
   -S&S recs
   -replete electrolytes as needed
   -IVF as needed
    # Access: peripheral IV
    # PPx: heparin, ASA, PPI, bowel regimen
    # Code:  FULL
    # Dispo: may be c/o to floor once stable on trach while awaiting rehab
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-5**] 07:54 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-4**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-08-06 12:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 103.7
F - [**2114-8-5**] 08:00 PM
   -Trach mask trials limited by tachypnea and agitation
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2114-8-6**] 07:56 AM
   Vancomycin - [**2114-8-6**] 07:57 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2114-8-6**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated, During trach mask trials
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2114-8-6**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 37.5
C (99.5
   HR: 81 (73 - 118) bpm
   BP: 107/36(54) {95/36(54) - 179/103(107)} mmHg
   RR: 28 (16 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,264 mL
                                                                  1,575 mL
   PO:
             TF:
                                                                    724 mL
                                                                    604 mL
   IVF:
                                                                  1,790 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  1,450 mL
   Urine:
                                                                  2,120 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,144 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 498 (365 - 630) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Anxious
   Lymphatic: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   244 K/uL
   273 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.6 mEq/L
   22 mg/dL
   107 mEq/L
   141 mEq/L
   29.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2114-7-30**]  02:51 AM
                             [**2114-7-31**]  03:58 AM
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
   WBC
   7.2
   6.5
   4.6
   4.2
   4.7
   4.7
   9.7
   9.9
   Hct
   27.3
   27.5
   28.7
   26.5
   25.7
   25.6
   24.8
   29.6
   Plt
   287
   273
   285
   [**Telephone/Fax (3) **]
   219
   244
   Cr
   1.2
   1.2
   1.2
   1.3
   1.3
   1.2
   1.1
   1.4
   1.0
   TropT
   0.09
   TCO2
   31
   Glucose
   103
   260
   177
   [**Telephone/Fax (2) 1678**]
   Other labs: PT / PTT / INR:15.0/32.0/1.3, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:14/9, Alk Phos / T Bili:188/0.3,
   Amylase / Lipase:32/46, Differential-Neuts:78.5 %, Lymph:8.9 %,
   Mono:8.1 %, Eos:3.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.0 g/dL,
   LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR-Trach in place Left basilar consolidation without change.
   Assessment and Plan
   60 yo female with history of Crohn's disease found unresponsive
   initially and now s/p trach and PEG and with prolonged ventilator
   weaning process in place. Her trach mask trials have been limited by
   tachypnea and now there has been recurrent fever to 103.7F.
   1)Respiratory Failure--Acute on Chronic
there is some meaningful need
   for ventilatory support but we need to better define the source of the
   difficulty with d/c of positive pressure support.
   -Will move to TM trials as possible
   -Will need ABG if worsening seen
   -Will need to maintain PRN sedation and look to allow stable regiman
   2)Atrial Flutter-
   -Seen in acute setting in past 24 hours
   -Will need rate control better maintained to allow prolonged trach mask
   trials.
   3)Pneuomonia-
   -Vanco/Meropenem
   4)Fever-
   -Repeat cultures
   -Will have to consider alternative sources and goal to maintain
   adequate IV BBX course
   5)Agitation-
   -Olanzapine-5mg [**Hospital1 7**]
   -Ativan PRN done po as optimal
   gg
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-5**] 07:54 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-8-6**] 06:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2114-08-07 08:00:00 Physician Resident Progress Note
Chief Complaint: 60 year old male with PMHx of DMII and Crohns who was
   trasnferred from OSH after 10 days of being found down with
   pancreatits, dka, respiratory failure, rhabdomyolysis and acute renal
   failure requiring intermittent dialysis now with trach in place on vent
   for continued respiratory support.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-8-6**] 09:21 PM
 FEVER - 102.0
F - [**2114-8-6**] 04:00 PM
   Patient seen by psychiatry yesterday. Emphasized need to d/c wrist
   restraints as primary team had anticipated. Limit use of ativan as
   still delirous and reccomending continuing zyprexa and check EKG with
   aggressive lyte repletion.  As per nursing patient had better night,
   not as agitated, got some sleep for the first time in awhile.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-6**] 07:57 AM
   Meropenem - [**2114-8-7**] 12:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-6**] 08:21 PM
   Haloperidol (Haldol) - [**2114-8-7**] 01:04 AM
   Furosemide (Lasix) - [**2114-8-7**] 01:04 AM
   Lorazepam (Ativan) - [**2114-8-7**] 01:45 AM
   Morphine Sulfate - [**2114-8-7**] 05:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-7**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.3
C (99.2
   HR: 95 (64 - 106) bpm
   BP: 114/60(74) {82/39(50) - 148/122(128)} mmHg
   RR: 19 (13 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,923 mL
                                                                  1,013 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    386 mL
   IVF:
                                                                    691 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                  1,020 mL
   Urine:
                                                                  3,135 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -212 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 413 (413 - 630) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress, wrote down that wants speech
   therapist to help her talk
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), more regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, hyperactive bowel sounds
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   257 K/uL
   9.4 g/dL
   201 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   21 mg/dL
   107 mEq/L
   142 mEq/L
   28.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
                             [**2114-8-6**]  05:47 PM
                             [**2114-8-7**]  05:12 AM
   WBC
   4.6
   4.2
   4.7
   4.7
   9.7
   9.9
   8.3
   6.8
   Hct
   28.7
   26.5
   25.7
   25.6
   24.8
   29.6
   28.2
   28.0
   Plt
   285
   283
   259
   263
   [**Telephone/Fax (2) 1733**]57
   Cr
   1.2
   1.3
   1.3
   1.2
   1.1
   1.4
   1.0
   1.0
   TropT
   0.09
   TCO2
   31
   Glucose
   177
   201
   205
   189
   [**Telephone/Fax (2) 1734**]01
   Other labs: PT / PTT / INR:12.6/27.5/1.1, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:14/9, Alk Phos / T Bili:188/0.3,
   Amylase / Lipase:32/46, Differential-Neuts:85.4 %, Band:0.0 %,
   Lymph:7.2 %, Mono:4.7 %, Eos:2.5 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   [**8-6**]
 chest x-ray
   FINDINGS: In comparison with study of [**8-5**], there is continued diffuse
   bilateral opacifications consistent with pulmonary edema. Tracheostomy
   tube
   remains in place. Left hemidiaphragm is not well seen, suggesting some
   atelectatic change and effusion in this region.
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
    # Resp Failure: VAP and likely CHF exacerbation with pulmonary edema
   and AFl. Pt has received copious amount of fluids in the ICU. However,
   we have been diurising her slowly. Chest x-ray has continued diffuse
   bilateral opacifications c/w pulmonary edema, with left sided effusion
   and atelectasis. Currently off ventilator on trach mask
   - will continue active diuresis for pleural effusions and pulmonary
   edema
   -Continue meropenem day [**3-29**], no more vanco for now
   -suction as needed
   -follow CXR
   - sputum culture with enterobacter ( see below)
   -Albuterol/atrovent nebs prn
   -Morphine PRN
   - trach collar to be changed on Friday hopefully so that patient will
   be able to talk with trach in
    #Agitation: Patient has not seen her family in long time and has had a
   very complicated ICU course. She has responded to propofol, but now too
   long and it is not a good alternative. I think we need to address the
   baseline problem and do a good long-term regimen for that. Now off
   propofol on standing olanzapine.
   - psych consult appreciated
   - reccomending d/c wrist restraints as unnecessary and cause patient
   likely to become more agitated
   - limit ativan use (will d/c order now)
   -Talk to her frequently about her progression
   -F/u psych recs
   -Change trach to smaller, so she can talk (requesting it)
   -Improve her breathing
   -Continue Olanzapine as standing
    #Fever: Fever overnight of 102, still unclear etiology. Has had +
   blood culture with coag negative staph and sputum culture with
   enterobacter as below which is sensitive to meropenen which is what
   patient has been getting. Urine has been growing yeast only.  Also
   history of Crohn
s disease. ESR 95 CRP elevated.  Currently no lines or
   hardware. PEG looks okay. Negative blood cultures as above except for
   one coag neg staph which has cleared.   CT chest below. Negative for
   PE. TTE without evidence of active endocarditis. Would also consider
   non-infectious causes such as drug fever.
   - d/c vancomycin yesterday
   - continue meropenem day [**3-29**]
- sputum culture GRAM STAIN (Final [**2114-7-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2114-8-3**]):
      OROPHARYNGEAL FLORA ABSENT.
      ENTEROBACTER ASBURIAE.    SPARSE GROWTH.
         This organism may develop resistance to third generation
         cephalosporins during prolonged therapy. Therefore, isolates that
         are initially susceptible may become resistant within three to
         four days after initiation of therapy.  For serious infections,
         repeat culture and sensitivity testing may therefore be warranted
         if third generation cephalosporins were used.
         CEFTRIAXONE CIPROFLOXACIN TOBRAMYCIN AND PIPERACILLIN sensitivity
         testing performed by Microscan.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ENTEROBACTER ASBURIAE
                             |
AMIKACIN--------------   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
PIPERACILLIN---------- =>128 R
TOBRAMYCIN------------   =>8 R
TRIMETHOPRIM/SULFA----   <=1 S
   -f/u temp curve, WBC curve
   - ID consult today, will follow-up on their recs
   - ct chest -
   1. Negative examination for PE or aortic dissection.
   2. Worsening moderate right pleural effusion and stable moderate left
   pleural
   effusion with adjacent atelectasis and a component of aspiration. No
   definite
   evidence of pneumonia is seen.
   3. Trace amount of stable pericardial effusion.
   4. A sclerotic right scapular bony lesion for which a Bone scan
   examination
   is recommended.
   5. Stable non-pathologically enlarged lymph nodes in the mediastinum
   and
   axillary areas. Clinical correlation is recommended.
    #PAF: Patient with multiple episodes with fibrilation/flutter with HR
   in 150s associated with SOB and agitation. Initially concern for
   possible PE, however given negative CT this is really no longer a
   concern. Likelyprecipitant isVAP. CHADS2 of 1+. Currently on full dose
   ASA.
   -overnight patient was in normal sinus
   -diltiazem currently 90mg qid continue to on this dose given patients
   BP is low-normal
   -given that intermittent afib on ASA 325 mg PO daily
    # Elevated Alk Phos/Crohn
s disease:  Most likely due to ischemic
   biliary ducts after being down. Alk phos elevated has continued to
   trend down since admission. Also history of Crohns disease s/p
   surgeries in the remote past. However currently patient is denying
   abdominal pain and not having increased or bloody BMs.
   - no new LFTs ordered today, will continue to trend
   -  does have loose stools and elevated ESR, CRP and fever
 would
   consider chron
s flare as an etiology, although in the absence of
   abdominal pain, and with only moderate loose stools, however cannot
   exclude
   - would touch base with GI
    #. Renal Failure: Creatinine currently 1.0 appears to have resolved.
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
   # Diabetes/DKA: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin. Patient
   running in high side, may increase AM insulin to 10.
   -          continue regular insulin sliding scale, NPH to [**7-31**], would
   consider increase as persistently elevated fingersticks [**8-31**]
   # FEN: on tube feeds (replete with fiber)
    # Access: peripheral IV
    # PPx: heparin, ASA, PPI, bowel regimen
   # Code:  FULL
   # Dispo: awaiting rehab, consider floor transfer once trach more stable
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-6**] 07:50 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-6**] 06:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-08-07 10:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-8-6**] 09:21 PM
 FEVER - 102.0
F - [**2114-8-6**] 04:00 PM
   Improved sleep overnight
   requesting to speak today
   Recurrent fevers O/N
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-6**] 07:57 AM
   Meropenem - [**2114-8-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-6**] 08:21 PM
   Furosemide (Lasix) - [**2114-8-7**] 01:04 AM
   Haloperidol (Haldol) - [**2114-8-7**] 01:04 AM
   Lorazepam (Ativan) - [**2114-8-7**] 01:45 AM
   Morphine Sulfate - [**2114-8-7**] 05:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2114-8-7**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.6
C (99.7
   HR: 96 (64 - 106) bpm
   BP: 113/98(101) {82/39(50) - 143/122(128)} mmHg
   RR: 24 (13 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  2,923 mL
                                                                  1,458 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    498 mL
   IVF:
                                                                    691 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                  1,400 mL
   Urine:
                                                                  3,135 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -212 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 413 (413 - 498) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 99
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: ///26/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Trachesotomy in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   257 K/uL
   201 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   21 mg/dL
   107 mEq/L
   142 mEq/L
   28.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2114-7-31**]  04:16 PM
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
                             [**2114-8-6**]  05:47 PM
                             [**2114-8-7**]  05:12 AM
   WBC
   4.6
   4.2
   4.7
   4.7
   9.7
   9.9
   8.3
   6.8
   Hct
   28.7
   26.5
   25.7
   25.6
   24.8
   29.6
   28.2
   28.0
   Plt
   285
   283
   259
   263
   [**Telephone/Fax (2) 1733**]57
   Cr
   1.2
   1.3
   1.3
   1.2
   1.1
   1.4
   1.0
   1.0
   TropT
   0.09
   TCO2
   31
   Glucose
   177
   201
   205
   189
   [**Telephone/Fax (2) 1734**]01
   Other labs: PT / PTT / INR:12.6/27.5/1.1, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:14/9, Alk Phos / T Bili:188/0.3,
   Amylase / Lipase:32/46, Differential-Neuts:85.4 %, Band:0.0 %,
   Lymph:7.2 %, Mono:4.7 %, Eos:2.5 %, Lactic Acid:0.7 mmol/L, Albumin:3.0
   g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 yo female with chronic ventilatory failure.  She has had some
   improved mental status with medication adjustments made in past 24
   hours.  What remains is some significant need for ongoing ventilatory
   support.  Ongoing issue is recurrent and significant fever noted
   overnight in the absence of significant changes in hemodynamics.
   1)Respiratory Failure-The patient continues to demonstrate good
   pulmonary mechanics and reasonable tolerance of trach mask trials with
   2 hours achieved this morning.  The underlying source of continued
   ventilatory support remains to be defined and this may represent a
   trend to improvement.
   -Continue with trach mask trial
   -Meropenem in place and on day [**3-29**] for VAP
   -Diruesis continuing
   -Ventilatory support at night as needed.
   -Trach downsize suggested as possible plan for Friday
   2)Agitation-
   -Improved with Zyprexa
   -Benzodiazepines have been minimized and this has correlated with
   improvement
   3)Atrial Flutter-Rate remains under reasonable control and patient HR
   has been </=90 bpm this morning
   -Dilt 90mg to continue
   4)Fevers
Source unknown
   Coag neg staph from PICC line-Rx with Vanco completed
   Enterobacter in sputum-S-Meropenem
   Given absence of deterioration in other clinical parameters the
   question of medication related fever is raised.
   Will follow up with culture results and consider further imaging should
   deterioration be seen.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-6**] 07:50 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-8-7**] 09:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2114-08-08 07:36:00 Physician Resident Progress Note
Chief Complaint: 60 year old female with PMHx of DMII and Crohns who
   was trasnferred from OSH after 10 day  admission after being found down
   with pancreatitis, DKA, respiratory failure, rhabdomyolysis and acute
   renal failure requiring intermittent dialysis now with persistent fever
   of unclear etiology and with trach
   24 Hour Events:
 EKG - At [**2114-8-7**] 09:30 AM
 BLOOD CULTURED - At [**2114-8-7**] 08:00 PM
   also cmv viral load
 BLOOD CULTURED - At [**2114-8-8**] 01:00 AM
   Yesterday consulted with ID regarding persistent fever. Reccomending
   pan-scan as well as increasing meropenem dosing.  Psych yesterday
   reccomended switching olanzapine to haldol. overnight nursing wanted
   wrist restraints as well as additional sedation. given additional prn
   dose of haldol but no benzos or wrist restraints.
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-6**] 07:57 AM
   Meropenem - [**2114-8-8**] 12:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2114-8-8**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 104 (70 - 117) bpm
   BP: 129/48(68) {97/23(52) - 157/100(109)} mmHg
   RR: 31 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,655 mL
                                                                    771 mL
   PO:
             TF:
                                                                  1,092 mL
                                                                    371 mL
   IVF:
                                                                    493 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    690 mL
   Urine:
                                                                  2,840 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    815 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally), coarse
   breath sounds throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   300 K/uL
   9.3 g/dL
   120 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   28.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
                             [**2114-8-6**]  05:47 PM
                             [**2114-8-7**]  05:12 AM
                             [**2114-8-8**]  01:13 AM
   WBC
   4.6
   4.2
   4.7
   4.7
   9.7
   9.9
   8.3
   6.8
   8.8
   Hct
   28.7
   26.5
   25.7
   25.6
   24.8
   29.6
   28.2
   28.0
   28.5
   Plt
   285
   283
   259
   263
   [**Telephone/Fax (2) 1733**]57
   300
   Cr
   1.3
   1.3
   1.2
   1.1
   1.4
   1.0
   1.0
   0.8
   TropT
   0.09
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) 1678**]
   201
   120
   Other labs: PT / PTT / INR:13.1/25.9/1.1, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:45/57, Alk Phos / T Bili:155/0.4,
   Amylase / Lipase:32/46, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:9.8 %, Mono:4.2 %, Eos:2.7 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:319 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
    # Resp Failure: VAP and likely CHF exacerbation with pulmonary edema
   and AFl. Pt has received copious amount of fluids in the ICU. However,
   we have been diurising her slowly. Chest x-ray has continued diffuse
   bilateral opacifications c/w pulmonary edema, with left sided effusion
   and atelectasis. Currently off ventilator on trach mask
   - will continue active diuresis for pleural effusions and pulmonary
   edema
   -Continue meropenem day [**3-29**], no more vanco for now
   -suction as needed
   -follow CXR
   - sputum culture with enterobacter ( see below)
   -Albuterol/atrovent nebs prn
   -Morphine PRN
   - trach collar to be changed on Friday hopefully so that patient will
   be able to talk with trach in
    #Agitation: Patient has not seen her family in long time and has had a
   very complicated ICU course. She has responded to propofol, but now too
   long and it is not a good alternative. I think we need to address the
   baseline problem and do a good long-term regimen for that. Now off
   propofol on standing olanzapine.
   - switched to haldol yesterday, d/c olanzapine
   - psych consult appreciated
   - reccomending d/c wrist restraints as unnecessary and cause patient
   likely to become more agitated
   - limit ativan use (will d/c order now)
   -Talk to her frequently about her progression
   -F/u psych recs
   -Change trach to smaller, so she can talk (requesting it)
    #Fever: Fever overnight of 102, still unclear etiology. Has had +
   blood culture with coag negative staph and sputum culture with
   enterobacter as below which is sensitive to meropenen which is what
   patient has been getting. Urine has been growing yeast only.  Also
   history of Crohn
s disease. ESR 95 CRP elevated.  Currently no lines or
   hardware. PEG looks okay. Negative blood cultures as above except for
   one coag neg staph which has cleared.   CT chest below. Negative for
   PE. TTE without evidence of active endocarditis. Would also consider
   non-infectious causes such as drug fever.
   - d/c vancomycin [**8-6**]
   - continue meropenem day [**4-29**], increased dose as per ID yesterday
   - sputum culture GRAM STAIN (Final [**2114-7-31**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2114-8-3**]):
         OROPHARYNGEAL FLORA ABSENT.
         ENTEROBACTER ASBURIAE.    SPARSE GROWTH.
            This organism may develop resistance to third generation
            cephalosporins during prolonged therapy. Therefore, isolates
   that
            are initially susceptible may become resistant within three to
            four days after initiation of therapy.  For serious
   infections,
            repeat culture and sensitivity testing may therefore be
   warranted
            if third generation cephalosporins were used.
            CEFTRIAXONE CIPROFLOXACIN TOBRAMYCIN AND PIPERACILLIN
   sensitivity
            testing performed by Microscan.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ENTEROBACTER ASBURIAE
                                |
   AMIKACIN--------------   <=2 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------  =>64 R
   CEFTRIAXONE-----------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------  =>16 R
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN---------- =>128 R
   TOBRAMYCIN------------   =>8 R
   TRIMETHOPRIM/SULFA----   <=1 S
   -f/u temp curve, WBC curve
   - ID recs to increase meropenen dose and repeat scan of chest/abdomen
   - CT torso prelim read -
   PFI: Interval development of left upper lobe patchy opacities
   concerning for
   pneumonia with smaller opacities in the right upper and middle lobes.
   Multiple enlarging lymph nodes compared to [**2114-7-24**], in the portacaval
   gastrohepatic retroperitoneal and axillary nodal stations, of unclear
   etiology. This raises the possibility of lymphoma. There are also
   indeterminate renal lesions.
   - for now will hold off of biopsy of these lesions in the setting of
   active infection, will follow-up with ID regarding furthur thoughts,
   consider repeating scan once infection improved to see if lymph nodes
   decrease
   - consider heme/onc consult if lymph nodes do not regress
    #PAF: Patient with multiple episodes with fibrilation/flutter with HR
   in 150s associated with SOB and agitation. Initially concern for
   possible PE, however given negative CT this is really no longer a
   concern. Likelyprecipitant isVAP. CHADS2 of 1+. Currently on full dose
   ASA.
   -diltiazem currently 90mg qid continue to on this dose given patients
   BP is low-normal
   -given that intermittent afib on ASA 325 mg PO daily
   - next step would be to try digoxin load
    # Elevated Alk Phos/Crohn
s disease:  Most likely due to ischemic
   biliary ducts after being down. Alk phos elevated has continued to
   trend down since admission. Also history of Crohns disease s/p
   surgeries in the remote past. However currently patient is denying
   abdominal pain and not having bloody BMs.
   -lfts mildlly elevated, continue to trend
   -  does have loose stools and elevated ESR, CRP and fever
 would
   consider chron
s flare as an etiology, although in the absence of
   abdominal pain, and with only moderate loose stools, however cannot
   exclude
   - would touch base with GI regarding thoughts on crohn
s disease
    #. Renal Failure: Creatinine currently 1.0 appears to have resolved.
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
    # Diabetes/DKA: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin. Patient
   running in high side, may increase AM insulin to 10.
   -  NPH to [**8-31**] switched yesterday with improvement in fingersticks,
   RISS
    # FEN: on tube feeds (replete with fiber)
    # Access: peripheral IV
    # PPx: heparin, ASA, PPI, bowel regimen
    # Code:  FULL
    # Dispo: awaiting rehab, consider floor transfer once trach more
   stable
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-7**] 10:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-6**] 06:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-08-08 12:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2114-8-7**] 09:30 AM
 BLOOD CULTURED - At [**2114-8-7**] 08:00 PM
   also cmv viral load
 BLOOD CULTURED - At [**2114-8-8**] 01:00 AM
   -No fevers
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-6**] 07:57 AM
   Meropenem - [**2114-8-8**] 08:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2114-8-8**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 117 (70 - 117) bpm
   BP: 153/55(100) {101/23(52) - 157/100(109)} mmHg
   RR: 24 (21 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,655 mL
                                                                  1,291 mL
   PO:
             TF:
                                                                  1,092 mL
                                                                    611 mL
   IVF:
                                                                    493 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    790 mL
   Urine:
                                                                  2,840 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    815 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   300 K/uL
   120 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   28.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2114-8-1**]  06:33 AM
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
                             [**2114-8-6**]  05:47 PM
                             [**2114-8-7**]  05:12 AM
                             [**2114-8-8**]  01:13 AM
   WBC
   4.6
   4.2
   4.7
   4.7
   9.7
   9.9
   8.3
   6.8
   8.8
   Hct
   28.7
   26.5
   25.7
   25.6
   24.8
   29.6
   28.2
   28.0
   28.5
   Plt
   285
   283
   259
   263
   [**Telephone/Fax (2) 1733**]57
   300
   Cr
   1.3
   1.3
   1.2
   1.1
   1.4
   1.0
   1.0
   0.8
   TropT
   0.09
   TCO2
   31
   Glucose
   [**Telephone/Fax (2) 1678**]
   201
   120
   Other labs: PT / PTT / INR:13.1/25.9/1.1, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:45/57, Alk Phos / T Bili:155/0.4,
   Amylase / Lipase:32/46, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:9.8 %, Mono:4.2 %, Eos:2.7 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:319 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CT Chest/Abd-
   -Left upper lobe opacity noted and LLL collapse noted
   --Patient dose have increaed abdominal adenopathy when compared with
   the previous scan of [**7-24**]
   Assessment and Plan
   60 yo female with acute and chronic ventilatory failure following
   initial admission.  She has had improved tolerance of trach mask trials
   with increased weaning attempts.  She has had improved alertness and
   overall mental status with d/c of benzodiazepine medications.  Of not
   signficiantly is that significant fevers have not recurred in past 24
   hours and trach mask has been tolerated for >24 hours straight.
   1)Respiratory Failure-Excellent improvement
   -Continue trach mask trials
   -Eval for trach downsize by IP to allow speech
   -Nocturnal support as needed only
   2)Fevers-
   -Appreciate ID recommendations
   -She does have abdominal adenopathy noted on CT scan which has
   increased slightly in size
this may be a marker for non-infectious
   source of fever.  If fevers resolve interval follow up would be
   needed.  If fevers or clinical status worsen would have to consider
   further intervention.
   -Continue with Meropenem
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2114-8-7**] 10:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-6**] 06:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2114-08-09 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -spiked to T 101.2
   -CT read indicating increased pericardial effusion, and incrasing size
   and number of lymph nodes
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-8-6**] 07:57 AM
   Meropenem - [**2114-8-9**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-9**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 97 (76 - 128) bpm
   BP: 79/34(45) {79/34(45) - 160/83(102)} mmHg
   RR: 21 (18 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,331 mL
                                                                    758 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    298 mL
   IVF:
                                                                  1,300 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                      0 mL
   Urine:
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,441 mL
                                                                    758 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   GEN: resting comfortably in bed, awake, interactive
   HEENT: NCAT MMM anicteric pink conjunctiva
   CV: RRR S1S2 no murmurs
   LYMPH: no palpable lymph nodes at b/l axilla, cervical or inguinal
   areas
   PULM: clear on inspiration, rhonchi on expiration likely [**12-23**] trach,
   decreased bs at b/l w/ crackles
   ABD: soft nontender nondistended +bs no HSM, masses palpated
   EXT: WWP 2+dp pulses
   SKIN: several bruises on upper and lower extremities, no new rashes,
   petechiae
   Labs / Radiology
   342 K/uL
   9.1 g/dL
   215 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   28.7 %
   19.6 K/uL
        [image002.jpg]
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
                             [**2114-8-6**]  05:47 PM
                             [**2114-8-7**]  05:12 AM
                             [**2114-8-8**]  01:13 AM
                             [**2114-8-9**]  04:30 AM
   WBC
   4.2
   4.7
   4.7
   9.7
   9.9
   8.3
   6.8
   8.8
   19.6
   Hct
   26.5
   25.7
   25.6
   24.8
   29.6
   28.2
   28.0
   28.5
   28.7
   Plt
   [**Telephone/Fax (2) 1815**]
   257
   300
   342
   Cr
   1.3
   1.2
   1.1
   1.4
   1.0
   1.0
   0.8
   0.9
   TropT
   0.09
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) **]82
   273
   201
   120
   215
   Other labs: PT / PTT / INR:12.8/25.2/1.1, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:45/57, Alk Phos / T Bili:155/0.4,
   Amylase / Lipase:32/46, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:9.8 %, Mono:4.2 %, Eos:2.7 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:319 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   60yo F with PMHx of DMII and Crohns who was transferred from OSH after
   10 days admission after being found down with pancreatitis, DKA,
   respiratory failure, rhabdomyolysis and ARF requiring intermittent
   dialysis.
    # Respiratory failure: VAP, pulmonary edema likely [**12-23**] fluid
   resuscitation on admission and during ICU stay. The patient has
   improved in her respiratory status while on antibiotics, with diuresis.
   CT chest shows atelectasis, some ground-glass opacities and nodules
   within the upper and mid-lung fields and improvement in the bilateral
   pleural effusions. This likely represents pneumonia and resolution of
   infection. Also has moderately enlarged heart on CT which makes
   underlying CHF something that could be exacerbating her pulmonary
   pathology. Underlying lung disease is unlikely given lack of these
   findings on prior chest CT. She has successfully stayed off ventilator
   for >24hr and IP downsized trach today.
   - continue active diuresis for pulmonary edema prn and follow on CXR
   - meropenem day [**4-29**] for enterobacter in sputum on cultures
   -suction, trach mask prn
   - sputum culture with enterobacter
   -Albuterol/atrovent nebs prn
    #Agitation: Patient has improved on haldol and olanzapine however she
   continues to be agitated at times during the night. She has expressed
   wishes to see her family which may be causing her agitation however she
   also experiences significant sun-downing. Psychiatry is following and
   recommendations are much appreciated. Will continue to offer support
   and orient patient as needed. At times patient pulls at her lines and
   gets out of bed, which requires restraints. Would benefit from having a
   1:1 sitter however this does not appear to be available in the ICU at
   this time.
   - continue haldol per psych recs
   - will attempt to avoid wrist restraints unless patient is a harm to
   herself
   - continue to orient as needed
   -patient would benefit from 1:1 sitter
   -UA, culture to r/o UTI
    #Fever: Fever overnight of 101.2. Today pt with a significant WBC,It
   is still unclear as to what is causing these fevers. Blood cultures
   with coag negative staph and sputum culture with enterobacter both of
   which were treated with meropenen and vancomycin. Urine has been
   growing yeast.  Also history of Crohn
s disease. (AMA negative, ESR 95,
   CRP elevated).  Currently no lines or hardware other than trach and
   PEG. Pending cultures have been negative thus far.  Last  TTE without
   evidence of active endocarditis. Drug fever at this point is unlikely
   unless it is due to meropenem. CT (as below) shows multiple areas of
   lymphadenopathy, with continuing resolution of her PNA. There is
   possibility that this could be malignancy as cause of fever however per
   radiology this is unlikely given widespread LAD. Would consider biopsy
   of axillary nodes, colonoscopy to r/o active Crohns. CMV negative.
   - continue meropenem day [**5-29**], increased dose as per ID yesterday
   -f/u WBC, fever curve, pending cultures
   - ID, GI recs
   -consider oncology consult once biopsy is done
   - sputum culture GRAM STAIN (Final [**2114-7-31**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2114-8-3**]):
         OROPHARYNGEAL FLORA ABSENT.
         ENTEROBACTER ASBURIAE.    SPARSE GROWTH.
            This organism may develop resistance to third generation
            cephalosporins during prolonged therapy. Therefore, isolates
   that
            are initially susceptible may become resistant within three to
            four days after initiation of therapy.  For serious
   infections,
            repeat culture and sensitivity testing may therefore be
   warranted
            if third generation cephalosporins were used.
            CEFTRIAXONE CIPROFLOXACIN TOBRAMYCIN AND PIPERACILLIN
   sensitivity
            testing performed by Microscan.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ENTEROBACTER ASBURIAE
                                |
   AMIKACIN--------------   <=2 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------  =>64 R
   CEFTRIAXONE-----------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------  =>16 R
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN---------- =>128 R
   TOBRAMYCIN------------   =>8 R
   TRIMETHOPRIM/SULFA----   <=1 S
   - CT torso prelim read -
   Increasing patchy consolidations within the left upper lobe with
   smaller
   nodular and ground glass foci within the right middle and upper lobes,
   concerning for pneumonia.
   2. Marked decrease in bilateral pleural effusions with persistent
   collapse of
   the left lower lobe and significant atelectasis of the right lower
   lobe.
   3. Increasing pericardial effusion.
   4. Increasing size and number of lymph nodes in multiple nodal stations
   since
   [**2114-7-24**], including the axilla, gastrohepatic ligament,
   portacaval
   and retroperitoneal nodal basins. These are most consistent with an
   infectious process, lymphoma seems unlikely.
    #PAF: Patient with multiple episodes with fibrilation/flutter with HR
   in 150s associated with SOB and agitation. CT negative for PE.  Likely
   secondary to VAP. CHADS2 of 1+. Currently on full dose ASA.
   -diltiazem currently 90mg qid, monitor BP
   -given that intermittent afib on ASA 325 mg PO daily
   - next step would be to try digoxin load
    # Elevated Alk Phos/Crohn
s disease:  Most likely due to ischemic
   biliary ducts after being down. Alk phos elevated has continued to
   trend down since admission. Also history of Crohns disease s/p
   surgeries in the remote past. However currently patient is denying
   abdominal pain and not having bloody BMs.
   -LFT trend
   -  does have loose stools and elevated ESR, CRP and fever
 would
   consider chron
s flare as an etiology, although in the absence of
   abdominal pain, and with only moderate loose stools, however cannot
   exclude
   - would touch base with GI regarding thoughts on crohn
s disease
    #. Renal Failure: Creatinine currently 1.0 appears to have resolved.
   - avoid nephrotoxins
   - closely monitor I&O and trend BUN/Cr.
    # Diabetes/DKA: Pt with h/o diet controlled DM who presented with
   pancreatitis and DKA, initially managed with IVF & insulin gtt. Now
   being managed with sliding scale and fixed dose insulin. Will increase
   NPH once no longer NPO. Her hyperglycemia was likely d/t zyprexa, now
   d/c.
   -  fingersticks, RISS
    # FEN: on tube feeds (replete with fiber)
    # Access: peripheral IV
    # PPx: heparin, ASA, PPI, bowel regimen
    # Code:  FULL
    # Dispo: awaiting rehab, consider floor transfer
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-6**] 06:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-08-09 12:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women admitted with respiratory failure from PNA, septic shock.
   Subseqently improved, but required trach and peg.  Has been on TM >
   48hours. Had temp spike of 101.2 overnight.  CT chest showed increased
   pericardial effusion.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Metoprolol
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2114-8-9**] 08:08 AM
   Fluconazole - [**2114-8-9**] 08:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-9**] 08:08 AM
   Lansoprazole (Prevacid) - [**2114-8-9**] 08:22 AM
   Other medications:
   chlorhex
   asa
   diltiazem
   insulin
   haldol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-8-9**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 97 (76 - 128) bpm
   BP: 122/69(80) {79/34(45) - 160/83(102)} mmHg
   RR: 21 (18 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.4 kg (admission): 75 kg
   Height: 61 Inch
             Total In:
                                                                  3,333 mL
                                                                    957 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    397 mL
   IVF:
                                                                  1,300 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                      0 mL
   Urine:
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,443 mL
                                                                    957 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   342 K/uL
   215 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   28.7 %
   19.6 K/uL
        [image002.jpg]
                             [**2114-8-2**]  03:36 AM
                             [**2114-8-3**]  05:57 AM
                             [**2114-8-3**]  06:21 PM
                             [**2114-8-4**]  04:41 AM
                             [**2114-8-5**]  04:46 AM
                             [**2114-8-6**]  04:32 AM
                             [**2114-8-6**]  05:47 PM
                             [**2114-8-7**]  05:12 AM
                             [**2114-8-8**]  01:13 AM
                             [**2114-8-9**]  04:30 AM
   WBC
   4.2
   4.7
   4.7
   9.7
   9.9
   8.3
   6.8
   8.8
   19.6
   Hct
   26.5
   25.7
   25.6
   24.8
   29.6
   28.2
   28.0
   28.5
   28.7
   Plt
   [**Telephone/Fax (2) 1815**]
   257
   300
   342
   Cr
   1.3
   1.2
   1.1
   1.4
   1.0
   1.0
   0.8
   0.9
   TropT
   0.09
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) **]82
   273
   201
   120
   215
   Other labs: PT / PTT / INR:12.8/25.2/1.1, CK / CKMB /
   Troponin-T:67/3/0.09, ALT / AST:45/57, Alk Phos / T Bili:155/0.4,
   Amylase / Lipase:32/46, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:9.8 %, Mono:4.2 %, Eos:2.7 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:319 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory Failure:  VAP and pulmonary edema, both improved.
                  - Trach downsized to allow her to talk.
   Agitation:  Improved with olanzipine and haldol.
   Fevers:  Has been on vanco and meropenem to treat a line infection.
   CMV negative.  CT with resolving PNA.
   PAF:  HR currently controlled.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-6**] 06:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Transfer to floor with sitter
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes